2156-12-23 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt was rigoring at 8:20pm.  Blood cultures drawn. Demerol given.
   Pt was febrile to 105 at 2am.  Received Tylenol, Ibuprofen and cooling
   blanket.
   Pt became hypotensive at 2am with SBPs in the 80s.  Got 2L NS and
   responded to the 100s.  Mixed venous 97%, CVPs 20s.  Extremities warm.
 EEG - At [**2156-12-22**] 09:00 AM
 BRONCHOSCOPY - At [**2156-12-22**] 02:35 PM
 BAL FLUID CULTURE - At [**2156-12-22**] 02:35 PM
 BLOOD CULTURED - At [**2156-12-22**] 08:20 PM
   d/t rigors
 FEVER - 103.1
F - [**2156-12-23**] 02:00 AM
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-12-22**] 05:00 AM
   Aztreonam - [**2156-12-22**] 04:00 PM
   Linezolid - [**2156-12-23**] 02:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Meperidine (Demerol) - [**2156-12-22**] 08:20 PM
   Metoprolol - [**2156-12-22**] 08:45 PM
   Heparin Sodium (Prophylaxis) - [**2156-12-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-23**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 35.9
C (96.6
   HR: 102 (93 - 158) bpm
   BP: 90/51(64) {78/46(57) - 156/87(108)} mmHg
   RR: 17 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 111.6 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 19 (10 - 203)mmHg
   CO/CI (Fick): (242.4 L/min) / (108.5 L/min/m2)
   Mixed Venous O2% Sat: 96 - 97
   Total In:
                                                                  4,520 mL
                                                                  3,260 mL
   PO:
   TF:
                                                                    807 mL
                                                                    241 mL
   IVF:
                                                                  3,124 mL
                                                                  2,809 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    530 mL
   Urine:
                                                                  1,210 mL
                                                                    530 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  3,160 mL
                                                                  2,730 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 6
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 27 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 97%
   ABG: 7.36/50/87.[**Numeric Identifier 7**]/27/1
   Ve: 8.8 L/min
   PaO2 / FiO2: 147
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, distant heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Wheezes : , Rhonchorous: bilaterally)
   Abdominal: Soft, Bowel sounds present, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, flushed face with erythema over abdomen likely
   from heating blanket just removed.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   625 K/uL
   8.6 g/dL
   140 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.9 mEq/L
   11 mg/dL
   102 mEq/L
   135 mEq/L
   26.3 %
   17.8 K/uL
        [image002.jpg]
                             [**2156-12-22**]  02:14 AM
                             [**2156-12-22**]  02:31 AM
                             [**2156-12-22**]  06:43 AM
                             [**2156-12-22**]  09:29 AM
                             [**2156-12-22**]  04:00 PM
                             [**2156-12-22**]  09:46 PM
                             [**2156-12-22**]  10:00 PM
                             [**2156-12-23**]  02:37 AM
                             [**2156-12-23**]  02:56 AM
                             [**2156-12-23**]  06:50 AM
   WBC
   14.9
   17.8
   Hct
   24.2
   26.3
   Plt
   573
   625
   Cr
   0.6
   0.6
   TCO2
   34
   31
   33
   29
   32
   29
   Glucose
   135
   155
   135
   122
   140
   Other labs: PT / PTT / INR:12.3/26.9/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:257/218, Alk Phos / T Bili:125/0.6,
   Differential-Neuts:77.0 %, Band:10.0 %, Lymph:6.0 %, Mono:2.0 %,
   Eos:4.0 %, D-dimer:1181 ng/mL, Lactic Acid:1.0 mmol/L, Albumin:2.2
   g/dL, LDH:413 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers and respiratory failure.
   .
   # fevers: There are many potential sources for infection. He has a
   right pleural effusion which could be a source, empyema, pneumonia. His
   sputum is growing MRSA. Also has hygromas and residual blood in his
   subdural space, last CT scan suggests right parietal hypodense area
   which could be infectious. Last urinalysis from yesterday was not
   overly convincing for infection; he does not seem to have abdominal
   tenderness or profuse diarrhea to suggest C diff infection. Sinus
   infection also on the differential as is a central process for
   hyperthermia. He did have a bronch today which reportedly was not very
   impressive with only thin secretions but maybe signs of trachitis. All
   blood cultures have been negative to date and LP done yesterday showed
   a negative gram stain with only 1 WBC. His original central line was
   discontinued and left subclavian line was just placed yesterday. He
   also does have an aline in place. Medications can also contribute to
   fever. He was recently on high doses of seroquel, haldol and benzos for
   agitation. They were discontinued yesterday. He is still on reglan,
   zofran and meperidine both of which could contribute to altered mental
   status.
   -follow up cultures- blood, sputum, CSF
   -chest CT to see if effusion is loculated and then may need IP to do
   thoracentesis vs VATS for clean out.
   -follow up BAL from bronch today
   -continue linezolid for MRSA VAP but discontinue aztreonam.
   -send surveillence cultures
   -cooling blanket prn
   -follow fever curve
   .
   # respiratory failure: currently trach in place and on ventilator
   requiring FIO2 of 0.6 with high tital volumes. This could be secondary
   to a MRSA pneumonia. Also concern for the pleural fluid and ? empyema
   contributing. Could also be secondary to altered mental status or even
   a central process given the head bleed. His CXR also suggests fluid
   overload.
   -try a trial of pressure support [**1-28**] and see how he tolerates it
   -lasix gtt for diuresis
   -CT chest as above
   -f/u BAL
   -nebs and suctioning
   -continue sedation for comfort but give trials off sedation
   -continue albuterol/ipratropium
   .
   # mental status: likely multifactorial including medications,
   subdurals, infection all are likely contributing. Neurology does not
   feel seizures are likely cause. He had an LP yesterday which did not
   show any organisms or suggest any meningitis.
   -appreciate neurology recs
   -f/u final EEG read
   -hold as many sedating medications as possible with daily wake up
   -monitor neuro exams
   -d/c reglan, zofran, meperidine
   .
   # tachycardia: likely related to infection/fevers but could also be
   from a central process. I do not think he is intravascularly dry
   causing tachycardia. Agitation could also contribute.
   -monitor on tele
   -check TSH (was lowish range on admission which was likely sick
   euthyroid related, but if came back undetectable, hyperthyroidism could
   account for tachycardia and even fevers)
   -continue metoprolol and give more prn
   .
   # subdural hematomas: Neurosurgery will continue to follow.
   -continue keppra for seizure ppx
   -neurosurgery will let us know how often to follow up CT head for
   surveillence
   .
   # hyponatremia: now low normal range. Could have SIADH picture from
   subdural hematomas. Continue sodium bicarb for now and monitor.
   .
   # hypothyroidism: continue levothyroxine. Checking TSH as above.
   .
   # HTN: currently normotensive. continue metoprolol. d/c amlodipine and
   hydralazine for now.
   .
   # FEN: on tube feeds to goal. Continue insulin SS for glycemic control
   and increase scale for tighter control.
   .
   # PPX: heparin SQ for DVT ppx, chlorhexidine mouth care. Lines LSC and
   aline are new [**2156-12-21**].
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2156-12-22**] 01:12 PM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-12-20**] 09:00 PM
   Multi Lumen - [**2156-12-21**] 07:45 AM
   Arterial Line - [**2156-12-21**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-12-24 05:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Chest CT: f/u with radiologist who said that fluid collections were
   too small to tap; no IR/VATS
   - TSH = 5.9
   - Ventilation: on pressure support overnight [**11-26**]/%50
   - EEG: diffuse generalized slowing, no focal deficits or sz activity.
   - Passed [**Last Name (un) 567**] stim test.
   - Attempted to balance diuresis with borderline BP.
   - Fluids: +3.5L
 ULTRASOUND - At [**2156-12-23**] 01:30 PM
   liver/gallbladder
 ARTERIAL LINE - STOP [**2156-12-23**] 02:30 PM
 ARTERIAL LINE - START [**2156-12-23**] 03:20 PM
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-12-22**] 05:00 AM
   Aztreonam - [**2156-12-22**] 04:00 PM
   Linezolid - [**2156-12-24**] 02:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Fentanyl - 200 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-12-23**] 11:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-24**] 05:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 118 (79 - 136) bpm
   BP: 116/61(79) {90/49(63) - 190/93(122)} mmHg
   RR: 16 (9 - 24) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 117.5 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 20 (13 - 27)mmHg
   CO/CI (Fick): (242.4 L/min) / (108.5 L/min/m2)
   Mixed Venous O2% Sat: 96 - 97
   Total In:
                                                                  4,803 mL
                                                                    788 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
                                                                    450 mL
                                                                    126 mL
   IVF:
                                                                  4,023 mL
                                                                    602 mL
   Blood products:
   Total out:
                                                                  1,237 mL
                                                                    340 mL
   Urine:
                                                                  1,237 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,566 mL
                                                                    448 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 576 (455 - 749) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 93%
   ABG: 7.44/44/66/29/4
   Ve: 12.2 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, distant heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Wheezes : , Rhonchorous: bilaterally)
   Abdominal: Soft, Bowel sounds present, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, flushed face with erythema over abdomen likely
   from heating blanket just removed.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   567 K/uL
   7.6 g/dL
   129 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.0 mEq/L
   11 mg/dL
   104 mEq/L
   138 mEq/L
   23.6 %
   13.0 K/uL
        [image002.jpg]
                             [**2156-12-22**]  09:46 PM
                             [**2156-12-22**]  10:00 PM
                             [**2156-12-23**]  02:37 AM
                             [**2156-12-23**]  02:56 AM
                             [**2156-12-23**]  06:50 AM
                             [**2156-12-23**]  09:21 AM
                             [**2156-12-23**]  04:07 PM
                             [**2156-12-24**]  02:19 AM
                             [**2156-12-24**]  02:45 AM
                             [**2156-12-24**]  03:50 AM
   WBC
   17.8
   12.3
   13.0
   Hct
   26.3
   23.5
   23.6
   Plt
   625
   569
   567
   Cr
   0.6
   0.6
   TCO2
   29
   32
   29
   27
   30
   31
   Glucose
   122
   140
   129
   Other labs: PT / PTT / INR:12.3/26.9/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:245/198, Alk Phos / T Bili:115/0.5,
   Differential-Neuts:77.0 %, Band:10.0 %, Lymph:6.0 %, Mono:2.0 %,
   Eos:4.0 %, D-dimer:1181 ng/mL, Lactic Acid:1.0 mmol/L, Albumin:2.2
   g/dL, LDH:337 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers and respiratory failure.
   .
   # Fevers: Differential includes RLL fluid collection which is most
   likely source of hypotension.  SVRs and CVP not consistent with septic
   shock, however WBCs with bands today and pt continues to be febrile.
   All blood cultures have been negative to date and LP done yesterday
   showed a negative gram stain with only 1 WBC. Medications can also
   contribute to fever as well as subdural hematomas.
   -follow up cultures- blood, sputum, CSF
   - f/u final Chest CT read, speak with IR regarding drainage
   -follow up BAL cultures from bronch
   -continue linezolid for MRSA VAP
   -send surveillence cultures
   -cooling blanket prn
   -follow fever curve
   - [**Last Name (un) **] stim test today
   .
   # Hypotension: Likely etiology is septic shock, although CVP and SVR
   more consistent with cardiogenic shock.  Given overall clinical
   picture, sepsis is most likely etiology.  Pt responded to IV fluids
   without requiring pressors last night.  Lactate 1.2 which may be in the
   setting of volume resuscitated sepsis.
   - PRN fluids for volume resuscitation
   - Lasix as needed for diuresis as tolerated by BP
   - [**Last Name (un) **] stim test
   .
   # Respiratory failure: Multifactorial with PNA, pulmonary edema, fluid
   collection, also secondary to altered mental status or even a central
   process given the head bleed.
   - switch to PS to attempt to wean, decrease FiO2 as tolerated
   -lasix gtt for diuresis as tolerated by BP
    -f/u BAL
   -nebs and suctioning
   -minimize sedation with propofol/fentanyl
   .
   # Mental status: likely multifactorial including medications,
   subdurals, infection all are likely contributing. Neurology does not
   feel seizures are likely cause. LP did not show any organisms or
   suggest any meningitis.
   -appreciate neurology recs
   -f/u final EEG read
   -hold as many sedating medications as possible with daily wake up
   -monitor neuro exams
   .
   # Elevated LFTs: Differential includes Tylenol toxicity, medication
   effects, hepatic abscess or early stages of shock liver given
   hypotension and sepsis; however I think this is less likely.
   - RUQ U/S
   - continue to trend LFTs
   .
   # Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.
   -monitor on tele
   -f/u TSH (was lowish range on admission which was likely sick euthyroid
   related, but if came back undetectable, hyperthyroidism could account
   for tachycardia and even fevers)
   -continue metoprolol and give more prn
   .
   # Subdural hematomas: Neurosurgery will continue to follow.
   -continue keppra for seizure ppx
   -neurosurgery will let us know how often to follow up CT head for
   surveillence
   .
   # Hyponatremia: now low normal range. Could have SIADH picture from
   subdural hematomas.
   - continue to monitor
   .
   # Hypothyroidism: continue levothyroxine. Checking TSH as above.
   .
   # HTN: currently normotensive/hypotensive.
   - Lasix, Metoprolol as tolerated by BP
   .
   # FEN: on tube feeds to goal. Continue insulin SS for glycemic control,
   monitor blood sugars, replete lytes PRN.
   .
   # PPX: heparin SQ for DVT ppx, chlorhexidine mouth care, Ranitidine,
   bowel regimen.
   .
   # Access: Lines LSC and aline are new [**2156-12-21**].
   .
   # Code Status: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2156-12-24**] 12:59 AM 25 mL/hour
   Lines:
   Multi Lumen - [**2156-12-21**] 07:45 AM
   Arterial Line - [**2156-12-23**] 03:20 PM

2156-12-25 05:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   RUQ ultrasound wnl
   Central venous sat 83%
   Diuresis limited by BP but put on Lasix gtt
   Zyprexa started, but not sufficient, & stopped; changed to 0.5 mg
   clonipin TID
   IP contact[**Name (NI) **] and willing to place PEG tube next week
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2156-12-22**] 04:00 PM
   Linezolid - [**2156-12-25**] 02:09 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Propofol - 40 mcg/Kg/min
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Metoprolol - [**2156-12-24**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2156-12-25**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-25**] 05:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 113 (79 - 133) bpm
   BP: 121/59(79) {86/47(59) - 155/85(270)} mmHg
   RR: 25 (0 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 117.5 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 15 (11 - 20)mmHg
   CO/CI (Fick): (22.9 L/min) / (10.2 L/min/m2)
   Mixed Venous O2% Sat: 83 - 83
   Total In:
                                                                  2,718 mL
                                                                    712 mL
   PO:
                                                                     60 mL
   TF:
                                                                    600 mL
                                                                    125 mL
   IVF:
                                                                  1,998 mL
                                                                    587 mL
   Blood products:
   Total out:
                                                                  2,895 mL
                                                                    550 mL
   Urine:
                                                                  2,895 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -177 mL
                                                                    162 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 297 (297 - 783) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   SpO2: 95%
   ABG: 7.40/47/78.[**Numeric Identifier 7**]/30/2
   Ve: 4.5 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, distant heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Wheezes : , Rhonchorous: bilaterally)
   Abdominal: Soft, Bowel sounds present, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, flushed face with erythema over abdomen likely
   from heating blanket just removed.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   567 K/uL
   7.6 g/dL
   137 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.6 mEq/L
   10 mg/dL
   102 mEq/L
   138 mEq/L
   23.1 %
   13.0 K/uL
        [image002.jpg]
                             [**2156-12-23**]  02:56 AM
                             [**2156-12-23**]  06:50 AM
                             [**2156-12-23**]  09:21 AM
                             [**2156-12-23**]  04:07 PM
                             [**2156-12-24**]  02:19 AM
                             [**2156-12-24**]  02:45 AM
                             [**2156-12-24**]  03:50 AM
                             [**2156-12-24**]  11:13 AM
                             [**2156-12-24**]  12:52 PM
                             [**2156-12-24**]  03:47 PM
   WBC
   12.3
   13.0
   Hct
   23.5
   23.6
   23.1
   Plt
   569
   567
   Cr
   0.6
   0.6
   TCO2
   32
   29
   27
   30
   31
   30
   30
   Glucose
   129
   137
   Other labs: PT / PTT / INR:12.3/26.9/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:245/198, Alk Phos / T Bili:115/0.5,
   Differential-Neuts:77.0 %, Band:10.0 %, Lymph:6.0 %, Mono:2.0 %,
   Eos:4.0 %, D-dimer:1181 ng/mL, Lactic Acid:1.0 mmol/L, Albumin:2.2
   g/dL, LDH:337 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers and respiratory failure.
   .
   # Fevers: No clear source, however now afebrile X 48 hours without
   Tylenol, ibuprofen. Bronch showing Staph Aureus, likely MRSA given
   prior sputums with MRSA.  [**Last Name (un) 567**] stim test was appropriate response.
   -follow up cultures- blood, sputum, CSF, BAL
   - Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   -follow fever curve
   .
   # Hypotension: Pt may have had sepsis which is now resolving.
   Medications (Lasix) contributed to low BP.  No pressors necessary.
   - PRN fluids for volume resuscitation
   - Lasix as needed for diuresis as tolerated by BP
   - PM lytes with Lasix gtt
   .
   # Respiratory failure: Multifactorial with PNA, pulmonary edema, fluid
   collection, also secondary to altered mental status or even a central
   process given the head bleed. BAL showed Staph Aureus which did not
   have sensitivities.
   - switch to PS to attempt to wean, decrease FiO2 as tolerated
   -lasix gtt for diuresis as tolerated by BP
   -nebs and suctioning
   -minimize sedation with propofol/fentanyl, try to wean today
   .
   # Mental status: likely multifactorial including medications,
   subdurals, infection all are likely contributing. Neurology does not
   feel seizures are likely cause. LP did not show any organisms or
   suggest any meningitis.  EEG showed severe encephalopathy of both
   cortical and subcortical structures which  may be due to increased
   intracranial pressure, no focal deficits or seizure activity
   -appreciate neurology recs
   -hold as many sedating medications as possible with daily wake up
   -monitor neuro exams
   - increase Clonazepam to 1mg PO TID
   .
   # Elevated LFTs: RUQ U/S normal without hepatic abscess.  Tylenol
   levels negative.  Unclear etiology.  Slightly lower today.
   - continue to trend LFTs
   .
   # Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.
   -monitor on tele
   -continue metoprolol and give more prn
   .
   # Subdural hematomas: Neurosurgery will continue to follow.
   -continue keppra for seizure ppx
   -neurosurgery will let us know how often to follow up CT head for
   surveillence
   .
   # Hyponatremia: now low normal range. Could have SIADH picture from
   subdural hematomas.
   - continue to monitor
   .
   # Hypothyroidism: continue levothyroxine. Checking TSH as above.
   .
   # HTN: currently normotensive/hypotensive.
   - Lasix, Metoprolol as tolerated by BP
   .
   # FEN: on tube feeds to goal. Continue insulin SS for glycemic control,
   monitor blood sugars, replete lytes PRN.  Consider PEG tube on Monday
   (per [**Last Name (LF) **], [**First Name3 (LF) 124**] be able to do this Monday morning).  Need to discuss with
   family.
   .
   # PPX: heparin SQ for DVT ppx, chlorhexidine mouth care, Ranitidine,
   bowel regimen.
   .
   # Access: Lines LSC and aline are new [**2156-12-21**].
   .
   # Code Status: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2156-12-24**] 08:52 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-21**] 07:45 AM
   Arterial Line - [**2156-12-23**] 03:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 64M HTN, TKR, fibromyalgia, mechanical fall
   [**10-25**] c/b progressive B SDH. Initial trip to OR c/b R PTX, taken back
   [**12-10**] and [**12-11**] for B evacs. Post op course c/b respiratory failure,
   tachycardia, altered mental status, fevers to 103, and probable MRSA
   RLL VAP. Fevers now resolved X 48 hr. Elevated LFTs (trending down)
   and RUQ USG normal. EEG severe encephalopathy. [**Last Name (un) 567**] stim and TSH
   normal.
   Exam notable for Tm 98.6  98.2 BP 121/59  HR 80 CVP 16-19 RR 25 with
   sat 95% on PSV 10/5 50% ABG 7.48/49/99.  Obese M, intermittent
   agitation on vent, unable to follow commands. Coarse BS, tachy, RR.
   Distended abdomen, +BS, 2+ LE/dep edema. Labs notable for WBC 11.5
   (13)K, HCT stable, K+ 3.9, Cr 0.7. LFTs trending down.
   No new film today.
   64 yo M with complicated course, SDH, respiratory failure, fevers, now
   resolved and persistent altered mental status. Agree with plan to
   continue 21 day course linezolid for MRSA VAP.  Now AF, F/u additional
   cx data. Remains vent dependent, continue PS with slow wean to [**6-21**].
   Continue gentle diuresis with lasix drip for component of volume
   overload (goal even to neg 500). MS remains altered/decreased, likely
   multifactorial.  Continue fentanyl for pain. Continue low dose klonopin
   for element of benzo dependence / withdrawal and sedation and attempt
   to wean propofol. Continue keppra for sz prophylaxis; imaging stable
   post SDH / evac, with neurosurg following. Hyponatremia
   improved--monitor. Will continue metoprolol as able. Continue TFs with
   plan for G-tube early next week. Remainder as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2156-12-25**] 07:47 PM ------

2156-12-26 05:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Clonazepam increased to 1mg PO TID
   Lasix gtt yesterday, turned down for diureses -1.3L
   Discussed with daughter PEG tube for [**Name (NI) 501**] (need to call IR [**Name (NI) 501**]
   morning)
   Spoke with the IP team who suggested that the MICU resident page the on
   call IR-MD to place PEG on [**Name (NI) 501**] morning.
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2156-12-26**] 02:10 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Propofol - 50 mcg/Kg/min
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2156-12-25**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2156-12-26**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-26**] 05:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.5
C (99.5
   HR: 116 (81 - 139) bpm
   BP: 110/58(70) {110/58(70) - 110/58(70)} mmHg
   RR: 19 (0 - 25) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.3 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 12 (0 - 303)mmHg
   Total In:
                                                                  2,648 mL
                                                                    787 mL
   PO:
   TF:
                                                                    600 mL
                                                                    137 mL
   IVF:
                                                                  2,049 mL
                                                                    650 mL
   Blood products:
   Total out:
                                                                  3,980 mL
                                                                    360 mL
   Urine:
                                                                  3,980 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,332 mL
                                                                    427 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 532 (424 - 532) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 91%
   ABG: 7.43/55/73/36/9
   Ve: 8.8 L/min
   PaO2 / FiO2: 146
   Physical Examination: No change in exam.
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube, eyes closed,
   trachea midline.
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, distant heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Wheezes : Rhonchorous: bilaterally)
   Abdominal: Soft, Bowel sounds present, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   645 K/uL
   7.9 g/dL
   109 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.7 mEq/L
   8 mg/dL
   98 mEq/L
   138 mEq/L
   23.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2156-12-24**]  03:50 AM
                             [**2156-12-24**]  11:13 AM
                             [**2156-12-24**]  12:52 PM
                             [**2156-12-24**]  03:47 PM
                             [**2156-12-25**]  05:35 AM
                             [**2156-12-25**]  05:46 AM
                             [**2156-12-25**]  07:33 AM
                             [**2156-12-25**]  05:05 PM
                             [**2156-12-26**]  02:35 AM
                             [**2156-12-26**]  03:00 AM
   WBC
   13.0
   11.5
   9.9
   Hct
   23.6
   23.1
   24.7
   23.5
   Plt
   [**Telephone/Fax (3) 2496**]
   Cr
   0.6
   0.7
   0.6
   0.6
   TCO2
   30
   30
   38
   38
   38
   Glucose
   137
   118
   113
   109
   Other labs: PT / PTT / INR:11.9/24.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:228/172, Alk Phos / T Bili:130/0.4,
   Amylase / Lipase:56/39, Differential-Neuts:77.0 %, Band:10.0 %,
   Lymph:6.0 %, Mono:2.0 %, Eos:4.0 %, D-dimer:1181 ng/mL, Lactic Acid:1.0
   mmol/L, Albumin:2.2 g/dL, LDH:332 IU/L, Ca++:8.0 mg/dL, Mg++:2.7 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers and respiratory failure.
   Transferred to the MICU service, in order to further evaluate
   persistent fevers and AMS.
   .
   # Fevers: No clear source, however now afebrile X 48 hours without
   Tylenol, ibuprofen. Bronch showing Staph Aureus, likely MRSA given
   prior sputums with MRSA.  [**Last Name (un) 567**] stim test was appropriate response.
   - Follow up cultures - blood, CSF
   - Follow up speciation of sputum and BAL cultures.
   - Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   - Follow fever curve
   .
   # Hypotension: Pt may have had sepsis which is now resolving.
   Medications (Lasix) contributed to low BP.  No pressors necessary.
   - PRN fluids for volume resuscitation
   - Lasix as needed for diuresis as tolerated by BP
   - PM lytes with Lasix gtt.
   .
   # Respiratory failure: Multifactorial with PNA, pulmonary edema, fluid
   collection, also secondary to altered mental status or even a central
   process given the head bleed. BAL showed Staph Aureus which did not
   have sensitivities.
   - Switch to PS to attempt to wean, decrease FiO2 as tolerated
   - Lasix gtt for diuresis as tolerated by BP
   - Nebs and suctioning
   - Minimize sedation with propofol/fentanyl, try to wean today
   .
   # Mental status: likely multifactorial including medications,
   subdurals, infection all are likely contributing. Neurology does not
   feel seizures are likely cause. LP did not show any organisms or
   suggest any meningitis.  EEG showed severe encephalopathy of both
   cortical and subcortical structures which  may be due to increased
   intracranial pressure, no focal deficits or seizure activity
   - Appreciate neurology recs
   - Hold and wean as many sedating medications as possible with daily
   wake up.
   -monitor neuro exams
   - increase Clonazepam to 1mg PO TID
   .
   # Elevated LFTs: RUQ U/S normal without hepatic abscess.  Tylenol
   levels negative.  Unclear etiology.  Slightly lower today.
   - Continue to trend LFTs
 will obtain another set to evaluate trend
   again today, along with triglycerides (while on propofol).
   .
   # Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.
   - Monitor on tele
   - Continue metoprolol and give more prn
   .
   # Subdural hematomas: Neurosurgery will continue to follow.
   - Continue Keppra for seizure ppx
   - Neurosurgery will let us know how often to follow up CT head for
   surveillance, would like another on [**Month/Year (2) 501**] (tomorrow [**12-27**]).
   .
   # Hyponatremia: now low normal range. Could have SIADH picture from
   subdural hematomas.
   - Continue to monitor
   .
   # Hypothyroidism: continue levothyroxine. Checking TSH as above.
   .
   # HTN: currently normotensive/hypotensive.
   - Lasix, Metoprolol as tolerated by BP
   .
   # F: Diurese with a goal of neg 0.5-1 L over the day.
      E: Replete PRN
      N: On tube feeds to goal. Continue insulin SS for glycemic control,
   monitor blood sugars.  Discussing with family the option of placing PEG
   tube on [**Month/Year (2) 501**] (per [**Last Name (LF) **], [**First Name3 (LF) 124**] be able to do this [**First Name3 (LF) 501**] morning).  Need
   to discuss with family.  To D/C TF at Midnight.
   .
   # PPX: Heparin SQ for DVT ppx, chlorhexidine mouth care, Ranitidine,
   bowel regimen.
   .
   # Access: Lines LSC and a-line are new [**2156-12-21**].
   .
   # Code Status: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2156-12-26**] 02:41 AM 25 mL/hour
   Lines:
   Multi Lumen - [**2156-12-21**] 07:45 AM
   Arterial Line - [**2156-12-23**] 03:20 PM

2156-12-27 05:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CT head ordered for today per neursurgery recs.
   - TG = 833.  Propofol subsequently discontinued, and pt placed on
   versed instead.  Tolerated change well.
   - D/C'd TF at midnight for possible PEG placement: need to ensure that
   proper consent has been obtained.  IP to place in AM
   - LFTs cont. to trend downward.
   - Diuresis goals not met because of hypotension.
   - Climbing WBC.
 SPUTUM CULTURE - At [**2156-12-26**] 03:10 PM
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2156-12-27**] 02:04 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2156-12-26**] 08:04 PM
   Heparin Sodium - [**2156-12-27**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-27**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100
   HR: 126 (100 - 132) bpm
   BP: 137/73(95) {86/44(60) - 153/73(95)} mmHg
   RR: 19 (0 - 19) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.3 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 16 (0 - 17)mmHg
   Total In:
                                                                  2,777 mL
                                                                    495 mL
   PO:
   TF:
                                                                    600 mL
                                                                      3 mL
   IVF:
                                                                  2,077 mL
                                                                    492 mL
   Blood products:
   Total out:
                                                                  2,735 mL
                                                                    630 mL
   Urine:
                                                                  2,735 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     42 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 618 (525 - 618) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 96%
   ABG: 7.46/54/83//12
   Ve: 8 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube, eyes closed,
   trachea midline.
   Cardiovascular:  (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   distant heart sounds
   Peripheral Vascular: (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally)
   Abdominal: Soft, Bowel sounds present, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   608 K/uL
   8.3 g/dL
   123mg/dL
   0.8 mg/dL
   36 mEq/L
   3.9 mEq/L
   7 mg/dL
   95 mEq/L
   136 mEq/L
   24.3 %
   14.2 K/uL
        [image002.jpg]
                             [**2156-12-24**]  03:47 PM
                             [**2156-12-25**]  05:35 AM
                             [**2156-12-25**]  05:46 AM
                             [**2156-12-25**]  07:33 AM
                             [**2156-12-25**]  05:05 PM
                             [**2156-12-26**]  02:35 AM
                             [**2156-12-26**]  03:00 AM
                             [**2156-12-26**]  04:29 PM
                            [**2156-12-27**]  04:42 AM
                            [**2156-12-27**]  04:58 AM
   WBC
   11.5
   9.9
   14.2
   Hct
   23.1
   24.7
   23.5
   24.3
   Plt
   [**Telephone/Fax (3) 2510**]
   Cr
   0.6
   0.7
   0.6
   0.6
   TCO2
   38
   38
   38
   36
   40
   Glucose
   137
   118
   113
   109
   Other labs: Differential: 70% PMNs, 4% Bands, 6% eos, 6% lymphs.
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Micro: [**12-26**] sputum ET suction G+ cocci in pairs and clusters, [**12-22**] BAL
   = coag + staph
   CXR: L subclavian in place, improved aeration
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers and respiratory failure.
   Transferred to the MICU service, in order to further evaluate
   persistent fevers and AMS.
   .
   # Fevers: No clear source, was afebrile X 48 hours without Tylenol,
   ibuprofen, but now w/recurrent low grade temp. Could be due to
   subclavian line: site appears infected.  Bronch showing Staph Aureus,
   likely MRSA given prior sputums with MRSA.  [**Last Name (un) 567**] stim test was
   appropriate response.
   - Follow up cultures - blood, CSF
   - Follow up speciation of sputum and BAL cultures.
   - Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   - Follow fever curve
   - D/c subclavian line, culture tip, replace w/PICC line
   # Hypotension: Pt may have had sepsis which is now resolving.  MAPs
   stable.  Medications (Lasix) contributed to low BP.  No pressors
   necessary at this time.
   - PRN fluids for volume resuscitation
   - Lasix as needed for diuresis as tolerated by BP
   - PM lytes with Lasix gtt.
   # Respiratory failure: Multifactorial with PNA, pulmonary edema, fluid
   collection, also secondary to altered mental status or even a central
   process given the head bleed. BAL showed Staph Aureus which did not
   have sensitivities.
   - Switch to PS to attempt to wean, decrease FiO2 as tolerated
   - Lasix gtt for diuresis as tolerated by BP
   - Nebs and suctioning
   - Minimize sedation with propofol/fentanyl, switched to versed 2^nd to
   hyperlipidemia.
   - Add diamox 50mg [**Hospital1 **] for 2 days
   # Mental status: likely multifactorial including medications,
   subdurals, infection all are likely contributing. Neurology does not
   feel seizures are likely cause. LP did not show any organisms or
   suggest any meningitis.  EEG showed severe encephalopathy of both
   cortical and subcortical structures which  may be due to increased
   intracranial pressure, no focal deficits or seizure activity
   - Follow neurology recs
   - Hold and wean as many sedating medications as possible with daily
   wake up.
   -monitor neuro exams
   - increase Clonazepam to 1mg PO TID
   - repeat head CT as per neurosurgery recommendation
   #Metabolic alkalosis
   -          Diamox 50mg [**Hospital1 **] x2 days
   -          Monitor abgs
   -          Replete K+ to 4.5
   # Elevated LFTs: RUQ U/S normal without hepatic abscess.  Tylenol
   levels negative.  Unclear etiology.  Slightly lower yesterday.
   -          Continue to trend LFTs
 will obtain another set to evaluate
   trend again tomorrow am
   # hypertrigliceridemia: likely due to propofol. TG improved to 558
   - propofol d/c
   # Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.
   - Monitor on tele
   - Continue metoprolol and give more prn
   .
   # Subdural hematomas: Neurosurgery will continue to follow.
   - Continue Keppra for seizure ppx
   - Neurosurgery will let us know how often to follow up CT head for
   surveillance, would like another on Monday (tomorrow [**12-27**]).
   .
   # Hyponatremia:  low normal range. Could have SIADH picture from
   subdural hematomas.
   - Continue to monitor
   .
   # Hypothyroidism: continue levothyroxine. Checking TSH as above.
   .
   # HTN: currently normotensive/hypotensive.
   -          Lasix, Metoprolol as tolerated by BP
   -          Diamox 50mg [**Hospital1 **] for 2 days
   .
   # F: Diurese with a goal of neg 0.5-1 L over the day.
      E: Replete PRN, want K+ to 4.5
      N: On tube feeds to goal. Continue insulin SS for glycemic control,
   monitor blood sugars.  Discussing with family the option of placing PEG
   tube on Tuesday. Need to discuss with family.  To D/C TF at Midnight
   for PEG tomorrow.
   .
   # PPX: Heparin SQ for DVT ppx, chlorhexidine mouth care, Ranitidine,
   bowel regimen.
   .
   # Access: Lines LSC and a-line are new [**2156-12-21**].
   .
   # Code Status: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-21**] 07:45 AM
   Arterial Line - [**2156-12-23**] 03:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-12-27 09:56:00 Physician Attending Progress Note
Chief Complaint: SDH
   Respiratory Failure
   Fever--Unknown Origin
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2156-12-26**] 03:10 PM
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2156-12-27**] 02:04 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 200 mcg/hour
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2156-12-26**] 08:04 PM
   Heparin Sodium - [**2156-12-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 100.1
   Flowsheet Data as of  [**2156-12-27**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 121 (100 - 132) bpm
   BP: 126/71(89) {86/44(60) - 153/73(95)} mmHg
   RR: 13 (0 - 19) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.3 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 18 (0 - 18)mmHg
   Total In:
                                                                  2,777 mL
                                                                    640 mL
   PO:
   TF:
                                                                    600 mL
                                                                      3 mL
   IVF:
                                                                  2,077 mL
                                                                    638 mL
   Blood products:
   Total out:
                                                                  2,735 mL
                                                                  1,130 mL
   Urine:
                                                                  2,735 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     42 mL
                                                                   -490 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 618 (618 - 618) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 97%
   ABG: 7.46/54/82.[**Numeric Identifier 253**]/36/12
   Ve: 7.9 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
patient with very distant breath sounds bilaterally and
   no wheezes appreciated.  He has Pplat=27 with PEEP=12.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Diffuse macular rash noted in anterior chest
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   608 K/uL
   123 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.9 mEq/L
   7 mg/dL
   95 mEq/L
   136 mEq/L
   24.3 %
   14.2 K/uL
        [image002.jpg]
                             [**2156-12-24**]  03:47 PM
                             [**2156-12-25**]  05:35 AM
                             [**2156-12-25**]  05:46 AM
                             [**2156-12-25**]  07:33 AM
                             [**2156-12-25**]  05:05 PM
                             [**2156-12-26**]  02:35 AM
                             [**2156-12-26**]  03:00 AM
                             [**2156-12-26**]  04:29 PM
                            [**2156-12-27**]  04:42 AM
                            [**2156-12-27**]  04:58 AM
   WBC
   11.5
   9.9
   14.2
   Hct
   23.1
   24.7
   23.5
   24.3
   Plt
   [**Telephone/Fax (3) 2510**]
   Cr
   0.6
   0.7
   0.6
   0.6
   0.8
   TCO2
   38
   38
   38
   36
   40
   Glucose
   137
   118
   113
   109
   123
   Other labs: PT / PTT / INR:11.9/24.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:167/108, Alk Phos / T Bili:114/0.3,
   Amylase / Lipase:49/18, Differential-Neuts:77.0 %, Band:10.0 %,
   Lymph:6.0 %, Mono:2.0 %, Eos:4.0 %, D-dimer:1181 ng/mL, Lactic Acid:1.0
   mmol/L, Albumin:2.2 g/dL, LDH:271 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.8 mg/dL
   Fluid analysis / Other labs: 7.46/54/83
   CXR
significant bilateral opacities in the lung bases with suggestion
   of significant effusion in right base.
   Imaging: CXR-
   Microbiology: Blood Culture-No positive results
   BAL-S. Aureus  [**2156-12-22**]
   CSF-No growth to date
   Urine-No growth to date
   Assessment and Plan
   64 yo male admit with bilateral SDH and now with complicated post
   admission course notable for signifiant and recurrent fevers with slow
   to improve mental status.  He has evolution of persistent fevers in the
   setting of indwelling CVL and absence of alternative source identified
   definatively.
   Respiratory Failure-
   -Versed continued
   -Has reasonable pulmonary mechanics with predominantly chest wall
   restriction and high PEEP requirements which do appear to be adequately
   titrated to date.
   -He will need stabilization of his metabolic alkalosis with adequate
   potassium levels present
   -Will utilize diamox for possible aid with diuresis and stabilization
   of alkalosis
   -Continue with negative fluid balance with goal MAP >65
   -Hope to move to wean ventilatory support with above/below completed.
   SDH-
   -Keppra
   -Monitor exam
   -Repeat Head CT today
   -Continue with Versed and move to wean tomorrow when head CT/Picc/PEG
   all completed.
   Fever-He has prolonged hospital course and current findings making CVL
   bloodstream infection (catheter inserted [**2156-12-21**]), complicated pleural
   effusion in setting of previous chest tube, drug related fever with
   rash as perhaps most likely and in that order.  Will
   -Change CVL today to PICC
   -Will image right pleural space with ultrasound to consider drainage if
   fevers not resolved
   -Linezolid to continue
   Additional issues to be managed per the resident note  from this date
   with which I agree.
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 TACHYCARDIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SUBDURAL HEMORRHAGE (SDH)
 CARDIAC DYSRHYTHMIA OTHER
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition: PEG Tube Placement
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2156-12-21**] 07:45 AM
   Arterial Line - [**2156-12-23**] 03:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition :ICU
   Total time spent:

2156-12-28 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2156-12-27**] 04:58 PM
   At bedside by MICU
   -Head CT - no significant change
   -IP will not place PEG, contact another service
   -Updated daughter via telephone
   -Unsuccessful R subclavian line attempt
   -R lung effusion considered too small to tap
   -Diamox 250 [**Hospital1 **] x 2 days + KCl
   -Neuro recs: slow versed taper (over days) and increase standing
   antipsychotics
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2156-12-28**] 02:42 AM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2156-12-27**] 11:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-28**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 103 (71 - 121) bpm
   BP: 98/79(89) {86/51(64) - 142/90(105)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.3 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 17 (11 - 26)mmHg
   Total In:
                                                                  1,454 mL
                                                                    506 mL
   PO:
   TF:
                                                                      3 mL
   IVF:
                                                                  1,451 mL
                                                                    506 mL
   Blood products:
   Total out:
                                                                  2,770 mL
                                                                  1,100 mL
   Urine:
                                                                  2,770 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,316 mL
                                                                   -594 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 46.2 cmH2O/mL
   SpO2: 97%
   ABG: ///32/
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube, eyes closed,
   trachea midline.
   Cardiovascular:  (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   distant heart sounds
   Peripheral Vascular: (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally)
   Abdominal: Soft, Bowel sounds present, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   643 K/uL
   8.8 g/dL
   94 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.8 mEq/L
   8 mg/dL
   98 mEq/L
   137 mEq/L
   27.4 %
   17.2 K/uL
        [image002.jpg]
                             [**2156-12-25**]  05:46 AM
                             [**2156-12-25**]  07:33 AM
                             [**2156-12-25**]  05:05 PM
                             [**2156-12-26**]  02:35 AM
                             [**2156-12-26**]  03:00 AM
                             [**2156-12-26**]  04:29 PM
                            [**2156-12-27**]  04:42 AM
                            [**2156-12-27**]  04:58 AM
                            [**2156-12-27**]  03:58 PM
                            [**2156-12-28**]  02:22 AM
   WBC
   9.9
   14.2
   17.2
   Hct
   23.5
   24.3
   27.4
   Plt
   645
   608
   643
   Cr
   0.6
   0.6
   0.8
   0.8
   0.9
   TCO2
   38
   38
   38
   36
   40
   Glucose
   113
   109
   123
   95
   94
   Other labs: PT / PTT / INR:11.9/24.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:70.0 %, Band:4.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:6.0 %, D-dimer:1181 ng/mL, Lactic Acid:1.0
   mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers and respiratory failure.
   Transferred to the MICU service, in order to further evaluate
   persistent fevers and AMS.
   .
   # Fevers: No clear source, was afebrile X 48 hours without Tylenol,
   ibuprofen, but now w/recurrent low grade temp. Could be due to
   subclavian line: site appears infected.  Bronch showing Staph Aureus,
   likely MRSA given prior sputums with MRSA.  [**Last Name (un) 567**] stim test was
   appropriate response.
   - Follow up cultures - blood, CSF
   - Follow up speciation of sputum and BAL cultures.
   - Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   - Follow fever curve
   - D/c subclavian line, culture tip, replace w/PICC line
   # Hypotension: Pt may have had sepsis which is now resolving.  MAPs
   stable.  Medications (Lasix) contributed to low BP.  No pressors
   necessary at this time.
   - PRN fluids for volume resuscitation
   - Lasix as needed for diuresis as tolerated by BP
   - PM lytes with Lasix gtt.
   # Respiratory failure: Multifactorial with PNA, pulmonary edema, fluid
   collection, also secondary to altered mental status or even a central
   process given the head bleed. BAL showed Staph Aureus which did not
   have sensitivities.
   - Switch to PS to attempt to wean, decrease FiO2 as tolerated
   - Lasix gtt for diuresis as tolerated by BP
   - Nebs and suctioning
   - Minimize sedation with propofol/fentanyl, switched to versed 2^nd to
   hyperlipidemia.
   - Add diamox 50mg [**Hospital1 **] for 2 days
   # Mental status: likely multifactorial including medications,
   subdurals, infection all are likely contributing. Neurology does not
   feel seizures are likely cause. LP did not show any organisms or
   suggest any meningitis.  EEG showed severe encephalopathy of both
   cortical and subcortical structures which  may be due to increased
   intracranial pressure, no focal deficits or seizure activity
   - Follow neurology recs
   - Hold and wean as many sedating medications as possible with daily
   wake up.
   -monitor neuro exams
   - increase Clonazepam to 1mg PO TID
   - repeat head CT as per neurosurgery recommendation
   #Metabolic alkalosis
   -          Diamox 50mg [**Hospital1 **] x2 days
   -          Monitor abgs
   -          Replete K+ to 4.5
   # Elevated LFTs: RUQ U/S normal without hepatic abscess.  Tylenol
   levels negative.  Unclear etiology.  Slightly lower yesterday.
   -          Continue to trend LFTs
 will obtain another set to evaluate
   trend again tomorrow am
   # hypertrigliceridemia: likely due to propofol. TG improved to 558
   - propofol d/c
   # Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.
   - Monitor on tele
   - Continue metoprolol and give more prn
   .
   # Subdural hematomas: Neurosurgery will continue to follow.
   - Continue Keppra for seizure ppx
   - Neurosurgery will let us know how often to follow up CT head for
   surveillance, would like another on Monday (tomorrow [**12-27**]).
   .
   # Hyponatremia:  low normal range. Could have SIADH picture from
   subdural hematomas.
   - Continue to monitor
   .
   # Hypothyroidism: continue levothyroxine. Checking TSH as above.
   .
   # HTN: currently normotensive/hypotensive.
   -          Lasix, Metoprolol as tolerated by BP
   -          Diamox 50mg [**Hospital1 **] for 2 days
   .
   # F: Diurese with a goal of neg 0.5-1 L over the day.
      E: Replete PRN, want K+ to 4.5
      N: On tube feeds to goal. Continue insulin SS for glycemic control,
   monitor blood sugars.  Discussing with family the option of placing PEG
   tube on Tuesday. Need to discuss with family.  To D/C TF at Midnight
   for PEG tomorrow.
   .
   # PPX: Heparin SQ for DVT ppx, chlorhexidine mouth care, Ranitidine,
   bowel regimen.
   .
   # Access: Lines LSC and a-line are new [**2156-12-21**].
   .
   # Code Status: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-21**] 07:45 AM
   Arterial Line - [**2156-12-23**] 03:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-12-28 09:41:00 Physician Attending Progress Note
Chief Complaint: SDH
   Resp Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2156-12-27**] 04:58 PM
   At bedside by MICU
   -CT Head without significant changes in SDH findings
   -CVL attempt made but unable to be placed last pm in right SCV
   -Taper in Versed and increase in anti-psychotics pursued
   History obtained from Medical records
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2156-12-28**] 02:42 AM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2156-12-27**] 11:38 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2156-12-28**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 126 (71 - 126) bpm
   BP: 142/94(112) {86/51(64) - 142/94(112)} mmHg
   RR: 26 (11 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.3 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 17 (16 - 26)mmHg
   Total In:
                                                                  1,454 mL
                                                                    587 mL
   PO:
   TF:
                                                                      3 mL
   IVF:
                                                                  1,451 mL
                                                                    587 mL
   Blood products:
   Total out:
                                                                  2,770 mL
                                                                  1,600 mL
   Urine:
                                                                  2,770 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,316 mL
                                                                 -1,013 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 94%
   ABG: ///32/
   Ve: 11.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   643 K/uL
   94 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.8 mEq/L
   8 mg/dL
   98 mEq/L
   137 mEq/L
   27.4 %
   17.2 K/uL
        [image002.jpg]
                             [**2156-12-25**]  05:46 AM
                             [**2156-12-25**]  07:33 AM
                             [**2156-12-25**]  05:05 PM
                             [**2156-12-26**]  02:35 AM
                             [**2156-12-26**]  03:00 AM
                             [**2156-12-26**]  04:29 PM
                            [**2156-12-27**]  04:42 AM
                            [**2156-12-27**]  04:58 AM
                            [**2156-12-27**]  03:58 PM
                            [**2156-12-28**]  02:22 AM
   WBC
   9.9
   14.2
   17.2
   Hct
   23.5
   24.3
   27.4
   Plt
   645
   608
   643
   Cr
   0.6
   0.6
   0.8
   0.8
   0.9
   TCO2
   38
   38
   38
   36
   40
   Glucose
   113
   109
   123
   95
   94
   Other labs: PT / PTT / INR:11.9/24.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:70.0 %, Band:4.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:6.0 %, D-dimer:1181 ng/mL, Lactic Acid:1.0
   mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:5.0 mg/dL
   Imaging: CXR-
   NGT, Trach in good position
   No PTX post line
   No significant change in infiltrate
   Microbiology: [**12-26**]-Sputum-MRSA
   Assessment and Plan
   64 yo male admit with bilateral sub-dural hematoma and now with
   prolonged hospital course compliacted by recurrent and now persistent
   fevers.  We have worked to keep the sedation at a minimum to allow
   reasonable evaluation of the extent and nature of recovery.  The
   concern over possible Left SCL source of infection is high but have
   been technially unable to find alternative access despite attempts at
   right SLC by anesthesia as well and with ultrasound or IJ region
   showing difficult anatomy.
   1)Respiratory Failure
Improved metabolic alkalosis and even though
   fevers are seen we see minimal evidence of worsening pulmonary
   infiltrates.  He has RR> set Rate on ventilator and will move to
   attempt wean of ventilatory support.
   -PSV today
14/12 tried
   -Will look to have PSV wean as possible
   -Minimize sedation as possible to allow move to improvement in
   ventilatory effort
   -Negative balance today with goal for 2-3 liters negative over next 24
   hours with stabilization of HCO3
   2)Sub-Dural Hematoma
   -Daily wake-up with sedation D/C to eval MS
[**First Name (Titles) **] [**Last Name (Titles) 2396**]
   yesterday
   -Appreciate Neuro suggestions with sedation choices and will work to
   minimize sedation
   3)Fever-
   -Likely sources are extensive in the setting of prolonged illness
   checked and coming down, VAP is possible, C. Diff and possible urinary
   tract infection are all possible.
   -Will need line change today
   -Will repeat blood cultures today
   -Continue Linezolid dosing and would add Cefepime and Flagyl at this
   time after considering Amp reaction in the past
   -repeat sputum culture, send C. diff, LENI, review head CT for possible
   sinusitis
   4)Nutrition
move to place PEG tube through General Surgery given
   concern for long term feeds and inability for IP to complete procedure.
   Additional assessment and plan according to the resident note on this
   date with which I agree in full.
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 TACHYCARDIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SUBDURAL HEMORRHAGE (SDH)
 CARDIAC DYSRHYTHMIA OTHER
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2156-12-21**] 07:45 AM
   Arterial Line - [**2156-12-23**] 03:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2156-12-29 03:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2156-12-27**] 04:58 PM
   At bedside by MICU
   LENIs - showed no DVTs
   Abx broadened to Linezolid/Levo/Flagyl given persistent fevers
   New subclavian line inserted and old line pulled
   Lasix gtt for diuresis
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2156-12-28**] 12:02 PM
   Linezolid - [**2156-12-28**] 05:55 PM
   Metronidazole - [**2156-12-29**] 02:00 AM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2156-12-28**] 04:08 PM
   Ranitidine (Prophylaxis) - [**2156-12-28**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2156-12-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-29**] 03:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.9
C (98.5
   HR: 79 (79 - 126) bpm
   BP: 105/51(69) {82/48(65) - 142/94(112)} mmHg
   RR: 13 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.3 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 8 (7 - 289)mmHg
   Total In:
                                                                  1,960 mL
                                                                    436 mL
   PO:
   TF:
                                                                     75 mL
                                                                     90 mL
   IVF:
                                                                  1,765 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  2,925 mL
                                                                    400 mL
   Urine:
                                                                  2,925 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -965 mL
                                                                     36 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 659 (525 - 664) mL
   PC : 14 cmH2O
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/50/98.[**Numeric Identifier 20**]/26/3
   Ve: 7.5 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube, eyes closed,
   trachea midline.
   Cardiovascular:  (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   distant heart sounds
   Peripheral Vascular: (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally)
   Abdominal: Soft, Bowel sounds present, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   560 K/uL
   8.1 g/dL
   96 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.7 mEq/L
   9 mg/dL
   99 mEq/L
   135 mEq/L
   25.0 %
   15.0 K/uL
        [image002.jpg]
                             [**2156-12-26**]  03:00 AM
                             [**2156-12-26**]  04:29 PM
                            [**2156-12-27**]  04:42 AM
                            [**2156-12-27**]  04:58 AM
                            [**2156-12-27**]  03:58 PM
                            [**2156-12-28**]  02:22 AM
                            [**2156-12-28**]  11:02 AM
                            [**2156-12-28**]  03:17 PM
                            [**2156-12-29**]  01:58 AM
                            [**2156-12-29**]  02:20 AM
   WBC
   14.2
   17.2
   15.0
   Hct
   24.3
   27.4
   25.0
   Plt
   [**Telephone/Fax (3) 2574**]
   Cr
   0.8
   0.8
   0.9
   0.8
   0.9
   TCO2
   38
   36
   40
   31
   31
   Glucose
   123
   95
   94
   97
   96
   Other labs: PT / PTT / INR:12.1/25.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:76.0 %, Band:5.0 %,
   Lymph:3.0 %, Mono:3.0 %, Eos:3.0 %, D-dimer:1181 ng/mL, Lactic Acid:1.0
   mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers and respiratory failure.
   Transferred to the MICU service, in order to further evaluate
   persistent fevers and AMS.
   .
   # Fevers: No clear source, had been afebrile for over 48 hours, now
   febrile this AM at 101.4. Subclavian line site appears infected.
   Bronch showing Staph Aureus, likely MRSA given prior sputums with
   MRSA.  [**Last Name (un) 567**] stim test was appropriate response.
   - Follow up cultures
   - Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   - start broader coverage with Levo/Flagyl given new fever today
   - Follow fever curve
   - change subclavian line
   # Hypotension: Pt may have had sepsis which is now resolving.  MAPs
   stable.  Medications (Lasix) contributed to low BP.  No pressors
   necessary at this time.
   - PRN fluids for volume resuscitation
   - Lasix gtt for diuresis, monitor BP
   # Respiratory failure: Multifactorial with PNA, pulmonary edema, fluid
   collection, also secondary to altered mental status or even a central
   process given the head bleed. BAL showed Staph Aureus which did not
   have sensitivities.
   - Switch to PS to attempt to wean, decrease FiO2 as tolerated
   - Lasix gtt for diuresis as tolerated by BP
   - Nebs and suctioning
   - Minimize sedation with propofol/fentanyl, switched to versed 2^nd to
   hyperlipidemia.
   - Add diamox 50mg [**Hospital1 **] for 2 days
   # Mental status: likely multifactorial including medications,
   subdurals, infection all are likely contributing. Neurology does not
   feel seizures are likely cause. LP did not show any organisms or
   suggest any meningitis.  EEG showed severe encephalopathy of both
   cortical and subcortical structures which  may be due to increased
   intracranial pressure, no focal deficits or seizure activity
   - Follow neurology recs
   - Hold and wean as many sedating medications as possible with daily
   wake up.
   -monitor neuro exams
   - increase Clonazepam to 1mg PO TID
   - decrease Versed with slow taper per neurosurg recs
   #Metabolic alkalosis
   -          Diamox 50mg [**Hospital1 **] x2 days
   -          Monitor abgs
   -          Replete K+ to 4.5
   # Elevated LFTs: RUQ U/S normal without hepatic abscess.  Tylenol
   levels negative.  Unclear etiology.  Slightly lower yesterday.
   -          Continue to trend LFTs, now normal
   # hypertrigliceridemia: likely due to propofol. TG improved to 558
   - propofol d/c
   # Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.
   - Monitor on tele
   - Continue metoprolol and give more prn
   .
   # Subdural hematomas: Neurosurgery will continue to follow.  Appear
   improved/stable from prior imaging.
   - Continue Keppra for seizure ppx
   .
   # Hyponatremia:  low normal range. Could have SIADH picture from
   subdural hematomas.
   - Continue to monitor
   .
   # Hypothyroidism: continue levothyroxine.
   .
   # HTN: currently normotensive/hypotensive.
   -          Lasix, Metoprolol as tolerated by BP
   -          Diamox 50mg [**Hospital1 **] for 2 days
   .
   # F: Diurese with a goal of neg 0.5-1 L over the day.
      E: Replete PRN, want K+ to 4.5
      N: On tube feeds to goal. Continue insulin SS for glycemic control,
   monitor blood sugars.  Discussing with family the option of placing PEG
   tube on Tuesday. Need to discuss with family.
   .
   # PPX: Heparin SQ for DVT ppx, chlorhexidine mouth care, Ranitidine,
   bowel regimen.
   .
   # Access: Aline 11/4/008, L subclavian inserted [**2156-12-28**] (old R
   subclavian pulled
 was in [**2159-12-21**])
   .
   # Code Status: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2156-12-28**] 09:00 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2156-12-23**] 03:20 PM
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-12-29 11:49:00 Physician Attending Progress Note
Chief Complaint: Sub-Dural Hematoma
   Respiratory Failure
   Fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   CVL Changed yesterday in the setting of fever and bandemia noted
   yesterday.
   24 Hour Events:
 ULTRASOUND - At [**2156-12-28**] 10:40 AM
   LENIVS
 MULTI LUMEN - START [**2156-12-28**] 01:32 PM
 MULTI LUMEN - STOP [**2156-12-28**] 02:16 PM
 STOOL CULTURE - At [**2156-12-28**] 08:00 PM
   CDIFF
 BLOOD CULTURED - At [**2156-12-29**] 02:30 AM
 FEVER - 101.6
F - [**2156-12-28**] 10:00 AM
   -Negative fluid balance today
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2156-12-28**] 12:02 PM
   Metronidazole - [**2156-12-29**] 02:00 AM
   Linezolid - [**2156-12-29**] 03:00 AM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2156-12-28**] 04:08 PM
   Ranitidine (Prophylaxis) - [**2156-12-28**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2156-12-29**] 09:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, Lower fevers today
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2156-12-29**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 104 (79 - 126) bpm
   BP: 111/64(81) {87/48(65) - 178/82(114)} mmHg
   RR: 11 (11 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.3 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 13 (6 - 289)mmHg
   Total In:
                                                                  1,960 mL
                                                                  1,424 mL
   PO:
   TF:
                                                                     75 mL
                                                                    244 mL
   IVF:
                                                                  1,765 mL
                                                                    820 mL
   Blood products:
   Total out:
                                                                  2,925 mL
                                                                  2,560 mL
   Urine:
                                                                  2,925 mL
                                                                  2,560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -965 mL
                                                                 -1,136 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 688 (525 - 688) mL
   PC : 14 cmH2O
   PS : 14 cmH2O
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 95%
   ABG: 7.41/50/92.[**Numeric Identifier 491**]/29/5
   Ve: 7.2 L/min
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
Patient fails to follow commands but does open eyes and
   move eyes to voice this morning
   Labs / Radiology
   8.1 g/dL
   560 K/uL
   108 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.6 mEq/L
   10 mg/dL
   97 mEq/L
   135 mEq/L
   25.0 %
   15.0 K/uL
        [image002.jpg]
                            [**2156-12-27**]  04:58 AM
                            [**2156-12-27**]  03:58 PM
                            [**2156-12-28**]  02:22 AM
                            [**2156-12-28**]  11:02 AM
                            [**2156-12-28**]  03:17 PM
                            [**2156-12-29**]  01:58 AM
                            [**2156-12-29**]  02:20 AM
                            [**2156-12-29**]  03:59 AM
                            [**2156-12-29**]  09:00 AM
                            [**2156-12-29**]  09:35 AM
   WBC
   17.2
   15.0
   Hct
   27.4
   25.0
   Plt
   643
   560
   Cr
   0.8
   0.9
   0.8
   0.9
   1.0
   TCO2
   40
   31
   31
   28
   33
   Glucose
   95
   94
   97
   96
   108
   Other labs: PT / PTT / INR:12.1/25.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:76.0 %, Band:5.0 %,
   Lymph:3.0 %, Mono:3.0 %, Eos:3.0 %, D-dimer:1181 ng/mL, Lactic Acid:1.0
   mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.2 mg/dL
   Fluid analysis / Other labs: 7.41/42/92-->
   7.41/50/93
   Assessment and Plan
   64 yo amle with bilaterally SDH's and subsequent respiratory failure
   who in the setting of continued fevers and altered mental status
   patient to ICU team for further care.  He has had CVL changed for
   resolution of possible source of persistent fevers and bandemia
   1)Respiratory Failure-Patient with persistent ventilatiory requirement
   and slow wean of PSV being attmpted with limted success.  This
   persistent failure may be related in large part to a combination of
   chest wall restriction, patient neuromuscular weakness and persistent
   insult from pulmonary infection.
   -Continue with diuresis as tolerated--currently 1 liter negative today
   -PSV wean as tolerated
   -Would favor NIF testing if persistent failure seen
   -Ongoing Rx for possible VAP in the setting of continued fever and high
   secretion volumes are of concern
   2)Sub-Dural Hematoma-
   _Sedation to be weaned as tolerated
   -Continue with neuro exams regularly
   -Residual function and status has yet to be determined with sedation
   wean progressing slowly
   3)Fever-
   -Linezolid/Levo/Flagyl
   -Will expand to Meropenem instead of Levoifloxacin
   -Follow up culture results
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 TACHYCARDIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SUBDURAL HEMORRHAGE (SDH)
 CARDIAC DYSRHYTHMIA OTHER
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2156-12-28**] 09:00 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2156-12-23**] 03:20 PM
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2156-12-30 05:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * d/c levoquin
     * start meropenem
     * diuresed 1700cc
     * A-line d/c b/c of erythema
     * 3 episodes of hypotension (MAP's always above 60) -> gave 3x 250cc
       NS boluses, d/c lasix drip
     * tachycardic to 120's, improved w/lopressor
     * repleted Ca
     * Diuresis: -900cc (did not meet goal)
 ARTERIAL LINE - STOP [**2156-12-29**] 03:33 PM
 EKG - At [**2156-12-29**] 09:00 PM
 STOOL CULTURE - At [**2156-12-30**] 02:00 AM
   CDIFF
 BLOOD CULTURED - At [**2156-12-30**] 03:00 AM
   x1 from central line with am labs
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2156-12-28**] 12:02 PM
   Metronidazole - [**2156-12-30**] 02:00 AM
   Meropenem - [**2156-12-30**] 04:00 AM
   Linezolid - [**2156-12-30**] 05:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-12-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-30**] 05:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 114 (78 - 126) bpm
   BP: 105/67(76) {77/35(46) - 121/73(84)} mmHg
   RR: 12 (10 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.3 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 292 (6 - 317)mmHg
   Total In:
                                                                  3,680 mL
                                                                  1,094 mL
   PO:
   TF:
                                                                    661 mL
                                                                    187 mL
   IVF:
                                                                  2,059 mL
                                                                    846 mL
   Blood products:
   Total out:
                                                                  4,555 mL
                                                                    465 mL
   Urine:
                                                                  4,555 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -875 mL
                                                                    629 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 618 (566 - 761) mL
   PC : 14 cmH2O
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 99%
   ABG: 7.41/50/92.[**Numeric Identifier 491**]/27/5
   Ve: 7.2 L/min
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube, eyes closed,
   trachea midline.
   Cardiovascular:  (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   distant heart sounds
   Peripheral Vascular: (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally)
   Abdominal: Soft, Bowel sounds present, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   528 K/uL
   8.4 g/dL
   106 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.2 mEq/L
   11 mg/dL
   103 mEq/L
   137 mEq/L
   25.7 %
   11.5 K/uL
        [image002.jpg]
                            [**2156-12-28**]  11:02 AM
                            [**2156-12-28**]  03:17 PM
                            [**2156-12-29**]  01:58 AM
                            [**2156-12-29**]  02:20 AM
                            [**2156-12-29**]  03:59 AM
                            [**2156-12-29**]  09:00 AM
                            [**2156-12-29**]  09:35 AM
                            [**2156-12-29**]  05:29 PM
                            [**2156-12-29**]  09:10 PM
                            [**2156-12-30**]  02:42 AM
   WBC
   15.0
   10.3
   11.5
   Hct
   25.0
   26.1
   25.7
   25.7
   Plt
   560
   560
   528
   Cr
   0.8
   0.9
   1.0
   1.0
   1.0
   0.9
   TCO2
   31
   31
   28
   33
   Glucose
   97
   96
   108
   92
   110
   106
   Other labs: PT / PTT / INR:12.1/25.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:76.0 %, Band:5.0 %,
   Lymph:3.0 %, Mono:3.0 %, Eos:3.0 %, D-dimer:1181 ng/mL, Lactic Acid:1.0
   mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers and respiratory failure.
   Transferred to the MICU service, in order to further evaluate
   persistent fevers and AMS.
   .
   # Fevers: No clear source, had been afebrile for over 48 hours, now
   febrile this AM at 101.4.  Bronch showing Staph Aureus, likely MRSA
   given prior sputums with MRSA.  [**Last Name (un) 567**] stim test was appropriate
   response.  Subclavian line changed yesterday.
   - Follow up cultures including catheter tip from SC line [**2156-12-28**]
   - Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   - will change coverage to include pseudomonas
 Meropenem, Linezolid,
   Levofloxacin
   - continue to follow cultures
   .
   # Hypotension: Pt may have had sepsis which is now resolving.  MAPs
   stable.  Medications (Lasix) contributed to low BP.  No pressors
   necessary at this time.
   - PRN fluids for volume resuscitation
   - Lasix gtt for diuresis, monitor BP
   # Respiratory failure: Multifactorial with PNA, pulmonary edema, fluid
   collection, also secondary to altered mental status or even a central
   process given the head bleed. BAL showed Staph Aureus which did not
   have sensitivities.
   - Switch to PS to attempt to wean, decrease FiO2 as tolerated
   - Lasix gtt for diuresis as tolerated by BP
   - Nebs and suctioning
   - Minimize sedation with propofol/fentanyl, switched to versed 2^nd to
   hyperlipidemia.
   - had gotten diamox for 2 days, alkalosis resolved and will stop this
   now
   # Mental status: likely multifactorial including medications,
   subdurals, infection all are likely contributing. Neurology does not
   feel seizures are likely cause. LP did not show any organisms or
   suggest any meningitis.  EEG showed severe encephalopathy of both
   cortical and subcortical structures which  may be due to increased
   intracranial pressure, no focal deficits or seizure activity
   - Follow neurology recs
   - Hold and wean as many sedating medications as possible with daily
   wake up.
   -monitor neuro exams
   - increase Clonazepam to 1mg PO TID
   - decrease Versed with slow taper per neurosurg recs
     .
   # Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.
   - Monitor on tele
   - Continue metoprolol and give more prn
   .
   # Subdural hematomas: Neurosurgery will continue to follow.  Appear
   improved/stable from prior imaging.
   - Continue Keppra for seizure ppx
   .
   # Hypothyroidism: continue levothyroxine.
   .
   # HTN: currently normotensive/hypotensive.
   -          Lasix, Metoprolol as tolerated by BP
   -          Diamox 50mg [**Hospital1 **] for 2 days
   .
   # F: Diurese with a goal of neg -2 L over the day.
      E: Replete PRN, want K+ to 4.5
      N: On tube feeds to goal. Continue insulin SS for glycemic control,
   monitor blood sugars.  Discussing with family the option of placing PEG
   tube on Tuesday. Need to discuss with family.
   .
   # PPX: Heparin SQ for DVT ppx, chlorhexidine mouth care, Ranitidine,
   bowel regimen.
   .
   # Access: Aline 11/4/008, L subclavian inserted [**2156-12-28**] (old R
   subclavian pulled
 was in [**2159-12-21**])
   .
   # Code Status: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2156-12-29**] 08:05 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-12-30 09:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   SDH
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   -Patient with requirement for IVF bolus overnight in the setting of
   hypotension and Lasix ggt and restart of B-Blocker
   24 Hour Events:
 ARTERIAL LINE - STOP [**2156-12-29**] 03:33 PM--site with mild erythema
 EKG - At [**2156-12-29**] 09:00 PM
 STOOL CULTURE - At [**2156-12-30**] 02:00 AM
   CDIFF
 BLOOD CULTURED - At [**2156-12-30**] 03:00 AM
   x1 from central line with am labs
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2156-12-28**] 12:02 PM
   Metronidazole - [**2156-12-30**] 02:00 AM
   Meropenem - [**2156-12-30**] 04:00 AM
   Linezolid - [**2156-12-30**] 05:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-12-30**] 07:51 AM
   Fentanyl - [**2156-12-30**] 07:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Hypotension
   Flowsheet Data as of  [**2156-12-30**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.9
   HR: 116 (78 - 127) bpm
   BP: 116/67(77) {77/35(46) - 129/73(84)} mmHg
   RR: 14 (10 - 16) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.3 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 13 (7 - 317)mmHg
   Total In:
                                                                  3,680 mL
                                                                  1,427 mL
   PO:
   TF:
                                                                    661 mL
                                                                    335 mL
   IVF:
                                                                  2,059 mL
                                                                    912 mL
   Blood products:
   Total out:
                                                                  4,555 mL
                                                                    750 mL
   Urine:
                                                                  4,555 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -875 mL
                                                                    677 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 560 (560 - 761) mL
   PC : 14 cmH2O
   PS : 14 cmH2O
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 97%
   ABG: 7.41/50/92.[**Numeric Identifier 491**]/27/5
   Ve: 8.6 L/min
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   528 K/uL
   106 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.2 mEq/L
   11 mg/dL
   103 mEq/L
   137 mEq/L
   25.7 %
   11.5 K/uL
        [image002.jpg]
                            [**2156-12-28**]  11:02 AM
                            [**2156-12-28**]  03:17 PM
                            [**2156-12-29**]  01:58 AM
                            [**2156-12-29**]  02:20 AM
                            [**2156-12-29**]  03:59 AM
                            [**2156-12-29**]  09:00 AM
                            [**2156-12-29**]  09:35 AM
                            [**2156-12-29**]  05:29 PM
                            [**2156-12-29**]  09:10 PM
                            [**2156-12-30**]  02:42 AM
   WBC
   15.0
   10.3
   11.5
   Hct
   25.0
   26.1
   25.7
   25.7
   Plt
   560
   560
   528
   Cr
   0.8
   0.9
   1.0
   1.0
   1.0
   0.9
   TCO2
   31
   31
   28
   33
   Glucose
   97
   96
   108
   92
   110
   106
   Other labs: PT / PTT / INR:12.1/25.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:72.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:0.0 %, Eos:4.0 %, D-dimer:1181 ng/mL, Lactic
   Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Microbiology: Cath Tip--NGTD
   Blood Cultures--No growth to date
   Assessment and Plan
   64 yo male admit with bilteral sub-dural hematoma and now with
   prolonged hospital course complicated by persistent respiratory failure
   with volume overload and conern for recurrent blood stream infection in
   the setting of fever and polonged time of indwelling catheters which
   have all been changed.  He has had sedation decreased and is showing
   increasing signs of responsiveness to verbal inputs but has failed to
   follow commands to my request.
   1)Respiratory Failure-
   -Barriers to liberation from ventilation are volume overload, fever
   concerning for infection with secretions, mental status primarily
   -Will continue to attempt diuresis as blood pressure permits
   -PSV wean today
   -Will continue to trial decrease in sedation as limited by agitation
   -Would expect prolonged ventilatory support and likely chronic
   ventilator dependence
   2)Sub-Dural Hematoma-Patient with intermittent agitation charcaterized
   -Versed 3
wean by one per day
   -Fentanyl 175/hr
   -Keppra in place
   -Will repeat imaging for any changes in basic exam
   3)Fever
likely source is pulmonary and ventilator associated pneumonia
   most likely
   -Linezolid/Meropenem/Flagyl
   -Follow up cultures
   4)Agiation-
   -Weaning Versed/Fentanly
   -Seroquel as needed
   -Move to evaluate underlying mental status is essential but function is
   likely severely limited
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 TACHYCARDIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SUBDURAL HEMORRHAGE (SDH)
 CARDIAC DYSRHYTHMIA OTHER
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2156-12-29**] 08:05 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2156-12-31 05:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Lasix drip turned up
   -d/c NGT, OG tube below diaphragm on CXR
   -wean midazolam by 1/d
   BP goal MAP >60 uo 30cc/hour
   -Nasal saline, pseudoephedrine, Afrin
   -C. diff positive
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2156-12-28**] 12:02 PM
   Metronidazole - [**2156-12-31**] 02:16 AM
   Meropenem - [**2156-12-31**] 04:16 AM
   Linezolid - [**2156-12-31**] 04:48 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Furosemide (Lasix) - 3 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Fentanyl - [**2156-12-30**] 07:51 AM
   Ranitidine (Prophylaxis) - [**2156-12-30**] 08:35 PM
   Heparin Sodium (Prophylaxis) - [**2156-12-30**] 11:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-31**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.5
C (99.5
   HR: 126 (101 - 140) bpm
   BP: 128/75(89) {92/55(64) - 142/90(99)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.3 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 15 (7 - 20)mmHg
   Total In:
                                                                  3,048 mL
                                                                    901 mL
   PO:
   TF:
                                                                    632 mL
                                                                    205 mL
   IVF:
                                                                  1,896 mL
                                                                    616 mL
   Blood products:
   Total out:
                                                                  2,235 mL
                                                                  1,050 mL
   Urine:
                                                                  2,235 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    813 mL
                                                                   -149 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,064 (540 - 1,064) mL
   PS : 14 cmH2O
   RR (Spontaneous): 11
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 95%
   ABG: 7.42/43/81.[**Numeric Identifier **]/28/2
   Ve: 10.1 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube, eyes closed,
   trachea midline.
   Cardiovascular:  (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   distant heart sounds
   Peripheral Vascular: (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally)
   Abdominal: Soft, Bowel sounds present, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   521 K/uL
   8.5 g/dL
   139 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   9 mg/dL
   102 mEq/L
   136 mEq/L
   25.9 %
   14.2 K/uL
        [image002.jpg]
                            [**2156-12-29**]  02:20 AM
                            [**2156-12-29**]  03:59 AM
                            [**2156-12-29**]  09:00 AM
                            [**2156-12-29**]  09:35 AM
                            [**2156-12-29**]  05:29 PM
                            [**2156-12-29**]  09:10 PM
                            [**2156-12-30**]  02:42 AM
                            [**2156-12-30**]  04:09 PM
                            [**2156-12-30**]  06:05 PM
                            [**2156-12-31**]  02:01 AM
   WBC
   10.3
   11.5
   14.2
   Hct
   26.1
   25.7
   25.7
   25.9
   Plt
   560
   528
   521
   Cr
   1.0
   1.0
   1.0
   0.9
   0.8
   0.7
   TCO2
   31
   28
   33
   29
   Glucose
   108
   92
   110
   106
   113
   139
   Other labs: PT / PTT / INR:12.1/25.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:72.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:0.0 %, Eos:4.0 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers and respiratory failure.
   Transferred to the MICU service, in order to further evaluate
   persistent fevers and AMS.
   .
   # Fevers: Continues to have no clear source and now having more
   low-grade fevers at 100.  Bronch showing Staph Aureus, likely MRSA
   given prior sputums with MRSA.  [**Last Name (un) 567**] stim test was appropriate
   response.  Subclavian line changed, tip culture with no growth.
   - Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   - will change coverage to include pseudomonas
 Meropenem, Linezolid,
   Levofloxacin
   - continue to follow cultures
   .
   # Hypotension: Pt may have had sepsis which is now resolving.  MAPs
   stable.  Medications (Lasix) contributed to low BP.  No pressors
   necessary.  Urine output good.
   - PRN fluids for volume resuscitation
   - Lasix gtt for diuresis, monitor BP
   # Respiratory failure: Multifactorial with PNA, pulmonary edema, fluid
   collection, also secondary to altered mental status or even a central
   process given the head bleed. BAL showed Staph Aureus which did not
   have sensitivities.
   - Switch to PS to attempt to wean, decrease FiO2 as tolerated
   - Lasix gtt for diuresis as tolerated by BP, goal -1 today
   - Nebs and suctioning
   - Minimize sedation with propofol/fentanyl, switched to versed 2^nd to
   hyperlipidemia.
   - wean versed slowly
   # Mental status: likely multifactorial including medications,
   subdurals, infection all are likely contributing. Neurology does not
   feel seizures are likely cause. LP did not show any organisms or
   suggest any meningitis.  EEG showed severe encephalopathy of both
   cortical and subcortical structures which  may be due to increased
   intracranial pressure, no focal deficits or seizure activity
   - Follow neurology recs
   - Hold and wean as many sedating medications as possible with daily
   wake up.
   -monitor neuro exams
   - increase Clonazepam to 1mg PO TID
   - use Seroquel for agitation
   - decrease Versed with slow taper per neurosurg recs
     .
   # Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.
   - Monitor on tele
   - Continue metoprolol and give more prn
   .
   # Subdural hematomas: Neurosurgery will continue to follow.  Appear
   improved/stable from prior imaging.
   - Continue Keppra for seizure ppx
   .
   # Hypothyroidism: continue levothyroxine.
   .
   # F: Diurese with a goal of neg -1 L over the day.
      E: Replete PRN
      N: On tube feeds to goal. Continue insulin SS for glycemic control,
   monitor blood sugars.  PEG tube when afebrile X 24 hours.
   .
   # PPX: Heparin SQ for DVT ppx, chlorhexidine mouth care, Ranitidine,
   bowel regimen.
   .
   # Access: Aline 11/4/008, R subclavian inserted [**2156-12-28**] (old L
   subclavian pulled
 was in [**2159-12-21**])
   .
   # Code Status: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2156-12-30**] 11:00 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-12-31 11:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Fever
   SDH
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -C. Diff positive
   -NGT changed to OGT
   -Versed wean to 1.5mg/hr
   -Lasix gtt titratred up to allow negative fluid balance
   History obtained from Patient
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2156-12-28**] 12:02 PM
   Meropenem - [**2156-12-31**] 04:16 AM
   Linezolid - [**2156-12-31**] 04:48 AM
   Metronidazole - [**2156-12-31**] 10:27 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Furosemide (Lasix) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2156-12-30**] 08:35 PM
   Heparin Sodium (Prophylaxis) - [**2156-12-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2156-12-31**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.8
C (98.3
   HR: 106 (101 - 140) bpm
   BP: 121/66(78) {92/55(64) - 159/90(99)} mmHg
   RR: 14 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.3 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 17 (11 - 20)mmHg
   Total In:
                                                                  3,048 mL
                                                                  1,449 mL
   PO:
   TF:
                                                                    632 mL
                                                                    381 mL
   IVF:
                                                                  1,896 mL
                                                                    818 mL
   Blood products:
   Total out:
                                                                  2,235 mL
                                                                  1,520 mL
   Urine:
                                                                  2,235 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    813 mL
                                                                    -71 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 899 (540 - 1,064) mL
   PS : 14 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 97%
   ABG: 7.42/43/81.[**Numeric Identifier **]/28/2
   Ve: 9.5 L/min
   PaO2 / FiO2: 205
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Patient this morning open eyes to voice
he responds to
   verbal commands quite briskly indeed.  He tracks to voice this morning
   and this represents a substantial improvement with alertness.
   Labs / Radiology
   8.5 g/dL
   521 K/uL
   139 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   9 mg/dL
   102 mEq/L
   136 mEq/L
   25.9 %
   14.2 K/uL
        [image002.jpg]
                            [**2156-12-29**]  02:20 AM
                            [**2156-12-29**]  03:59 AM
                            [**2156-12-29**]  09:00 AM
                            [**2156-12-29**]  09:35 AM
                            [**2156-12-29**]  05:29 PM
                            [**2156-12-29**]  09:10 PM
                            [**2156-12-30**]  02:42 AM
                            [**2156-12-30**]  04:09 PM
                            [**2156-12-30**]  06:05 PM
                            [**2156-12-31**]  02:01 AM
   WBC
   10.3
   11.5
   14.2
   Hct
   26.1
   25.7
   25.7
   25.9
   Plt
   560
   528
   521
   Cr
   1.0
   1.0
   1.0
   0.9
   0.8
   0.7
   TCO2
   31
   28
   33
   29
   Glucose
   108
   92
   110
   106
   113
   139
   Other labs: PT / PTT / INR:12.1/25.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:72.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:0.0 %, Eos:4.0 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: 7.42/43/82
   Imaging: CXR-patient with persistent bilateral effusions. Can not rule
   out pulmonary infiltrate as well.  Trach and SCL in good position.
   Assessment and Plan
   64 yo male with initial admission with bilateral sub-dural hematoma.
   He has had prolonged hosptial course with slow to improve mental
   status.  We have made substantial efforts to decrease sedation to allow
   improvement in his mental status or lack of progress to be evaluated.
   In addition, he has had recurrent fevers--mutiple sources considered
   and to date->C. Diff, Sinusistis and possible catheter related blood
   stream infection has all been likley contributing.
   1)Respiratory Failure-
   -PSV wean to continue as tolerated
   -In the setting of negative fluid balance will consider PEEP wean
   2)Fever-Are treating sinusitis, C. Diff and VAP
   C. Diff-=
   Sinusitis-Will complete Afrin for Rx and continue with antibiotics
   Pneuomonia is a concern but we have minimal change in pulmonary
   infiltrates and will complete course of treatment.
   Continue C. Diff for treatment for two weeks beyond last antibiotic
   Linezolid/Meropenem/Flagyl
for now
   3)Sub Dural Hematoma-
   -Sedation wean to off expected
   -Seroquel as primary [**Doctor Last Name **] for agitation
   -Appreciate neuro and neurosurgery support in consideration of
   treatment plan
   Additional plan as defined in the housestaff note
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 TACHYCARDIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SUBDURAL HEMORRHAGE (SDH)
 CARDIAC DYSRHYTHMIA OTHER
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition: Will need to consider feeding tube placement
   Nutren 2.0 (Full) - [**2156-12-30**] 11:00 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2157-01-01 05:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Desaturated to the high 80s after positioning, got ABG and CXR which
   looked okay, replaced O2 probe and sat pt more upright and improved.
   Received 2mg Lorazepam for worsened agitation.
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2157-1-1**] 03:00 AM
   Meropenem - [**2157-1-1**] 04:00 AM
   Linezolid - [**2157-1-1**] 04:30 AM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-12-31**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-1**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38
C (100.4
   HR: 136 (102 - 144) bpm
   BP: 144/80(95) {102/49(60) - 159/99(107)} mmHg
   RR: 11 (9 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.3 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 8 (7 - 300)mmHg
   Total In:
                                                                  3,545 mL
                                                                  1,216 mL
   PO:
   TF:
                                                                    739 mL
                                                                    204 mL
   IVF:
                                                                  1,856 mL
                                                                    652 mL
   Blood products:
   Total out:
                                                                  3,345 mL
                                                                  1,130 mL
   Urine:
                                                                  3,345 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    200 mL
                                                                     86 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 968 (556 - 1,051) mL
   PS : 14 cmH2O
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   SpO2: 96%
   ABG: 7.48/44/81.[**Numeric Identifier 252**]/29/8
   Ve: 9.5 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube, eyes closed,
   trachea midline.
   Cardiovascular:  (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   distant heart sounds
   Peripheral Vascular: (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally)
   Abdominal: Soft, Bowel sounds present, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   583 K/uL
   8.7 g/dL
   130 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.7 mEq/L
   7 mg/dL
   98 mEq/L
   138 mEq/L
   26.8 %
   10.8 K/uL
        [image002.jpg]
                            [**2156-12-29**]  05:29 PM
                            [**2156-12-29**]  09:10 PM
                            [**2156-12-30**]  02:42 AM
                            [**2156-12-30**]  04:09 PM
                            [**2156-12-30**]  06:05 PM
                            [**2156-12-31**]  02:01 AM
                            [**2156-12-31**]  04:10 PM
                            [**2156-12-31**]  10:14 PM
                            [**2157-1-1**]  02:11 AM
                            [**2157-1-1**]  04:21 AM
   WBC
   10.3
   11.5
   14.2
   10.8
   Hct
   26.1
   25.7
   25.7
   25.9
   26.8
   Plt
   560
   528
   521
   583
   Cr
   1.0
   1.0
   0.9
   0.8
   0.7
   0.7
   0.6
   0.7
   TCO2
   29
   34
   Glucose
   92
   110
   106
   113
   139
   128
   126
   130
   Other labs: PT / PTT / INR:12.1/25.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:17.2 %, Mono:6.0 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers and respiratory failure.
   Transferred to the MICU service, in order to further evaluate
   persistent fevers and AMS.
   .
   # Fevers: Causes for fever include PNA given sputum and BAL results and
   now C. Diff positive.  Bronch showing Staph Aureus, likely MRSA given
   prior sputums with MRSA.  [**Last Name (un) 567**] stim test was appropriate response.
   Subclavian line changed, tip culture with no growth.
   - continue Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   with Meropenem to cover pseudomonas and IV Flagyl
   - start PO vanco today for C. Diff, continue IV Flagyl
   - continue to follow cultures
   .
   # Hypotension: Pt may have had sepsis which is now resolving.  MAPs
   stable.  Medications (Lasix) contributed to low BP.  No pressors
   necessary.  Urine output good.
   - PRN fluids for volume resuscitation
   - Lasix gtt for diuresis, monitor BP
   # Respiratory failure: Multifactorial with PNA, pulmonary edema, fluid
   collection, also secondary to altered mental status or even a central
   process given the head bleed. BAL showed Staph Aureus which did not
   have sensitivities.
   - Switch to PS to attempt to wean, decrease FiO2 as tolerated
   - Lasix gtt for diuresis as tolerated by BP, goal -1 today
   - Nebs and suctioning
   - Minimize sedation with propofol/fentanyl, switched to versed 2^nd to
   hyperlipidemia.
   - wean versed slowly
   # Mental status: likely multifactorial including medications,
   subdurals, infection all are likely contributing. Neurology does not
   feel seizures are likely cause. LP did not show any organisms or
   suggest any meningitis.  EEG showed severe encephalopathy of both
   cortical and subcortical structures which  may be due to increased
   intracranial pressure, no focal deficits or seizure activity
   - Follow neurology recs
   - Hold and wean as many sedating medications as possible with daily
   wake up.
   -monitor neuro exams
   - increase Clonazepam to 1mg PO TID
   - use Seroquel for agitation, increase dose today
   - decrease Versed with slow taper per neurosurg recs
     .
   # Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.
   - Monitor on tele
   - Continue metoprolol and give more prn
   .
   # Subdural hematomas: Neurosurgery will continue to follow.  Appear
   improved/stable from prior imaging.
   - Continue Keppra for seizure ppx
   .
   # Hypothyroidism: continue levothyroxine.
   .
   # F: Diurese with a goal of neg -1 L over the day.
      E: Replete PRN
      N: On tube feeds to goal. Continue insulin SS for glycemic control,
   monitor blood sugars.  PEG tube when afebrile X 24 hours.
   .
   # PPX: Heparin SQ for DVT ppx, chlorhexidine mouth care, Ranitidine,
   bowel regimen.
   .
   # Access: Aline 11/4/008, R subclavian inserted [**2156-12-28**] (old L
   subclavian pulled
 was in [**2159-12-21**])
   .
   # Code Status: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2156-12-31**] 04:08 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-01 14:56:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   started on Rx for C diff
   One episode on desaturating with positioning
   Weaning sedation slowly - required some breakthrough Haldol
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2157-1-1**] 04:30 AM
   Metronidazole - [**2157-1-1**] 09:00 AM
   Meropenem - [**2157-1-1**] 10:17 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 100 mcg/hour
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-12-31**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2157-1-1**] 02:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.5
C (99.5
   HR: 120 (106 - 148) bpm
   BP: 133/63(81) {92/49(60) - 155/99(107)} mmHg
   RR: 14 (0 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.3 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 17 (7 - 300)mmHg
   Total In:
                                                                  3,546 mL
                                                                  2,106 mL
   PO:
   TF:
                                                                    739 mL
                                                                    511 mL
   IVF:
                                                                  1,856 mL
                                                                  1,056 mL
   Blood products:
   Total out:
                                                                  3,345 mL
                                                                  2,570 mL
   Urine:
                                                                  3,345 mL
                                                                  2,570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    201 mL
                                                                   -464 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 600 (556 - 1,051) mL
   PS : 14 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 97%
   ABG: 7.48/44/81.[**Numeric Identifier 252**]/29/8
   Ve: 13.6 L/min
   PaO2 / FiO2: 203
   Physical Examination
   Gen lying in bed, eyes open, follows simple commands:
   HEENT: trach OGT
   CV: tachy RR
   Chest: poor air movement no wheezes
   ABd: obese soft NT +BS
   Ext: + edema
   Neuro: eyes open, tracks, squeezes right hand to command
   Labs / Radiology
   8.7 g/dL
   583 K/uL
   130 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.7 mEq/L
   7 mg/dL
   98 mEq/L
   138 mEq/L
   26.8 %
   10.8 K/uL
        [image002.jpg]
                            [**2156-12-29**]  05:29 PM
                            [**2156-12-29**]  09:10 PM
                            [**2156-12-30**]  02:42 AM
                            [**2156-12-30**]  04:09 PM
                            [**2156-12-30**]  06:05 PM
                            [**2156-12-31**]  02:01 AM
                            [**2156-12-31**]  04:10 PM
                            [**2156-12-31**]  10:14 PM
                            [**2157-1-1**]  02:11 AM
                            [**2157-1-1**]  04:21 AM
   WBC
   10.3
   11.5
   14.2
   10.8
   Hct
   26.1
   25.7
   25.7
   25.9
   26.8
   Plt
   560
   528
   521
   583
   Cr
   1.0
   1.0
   0.9
   0.8
   0.7
   0.7
   0.6
   0.7
   TCO2
   29
   34
   Glucose
   92
   110
   106
   113
   139
   128
   126
   130
   Other labs: PT / PTT / INR:12.1/25.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:17.2 %, Mono:6.0 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR: slight resolution of
   Microbiology: Sputum MOD MRSA
   Blood CX NGTD
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 TACHYCARDIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SUBDURAL HEMORRHAGE (SDH)
 CARDIAC DYSRHYTHMIA OTHER
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   64 yo male with initial admission with bilateral sub-dural hematoma.
   He has had prolonged hospital course with slow to improve mental
   status.  We have made substantial efforts to decrease sedation to allow
   improvement in his mental status or lack of progress to be evaluated.
   In addition, he has had recurrent fevers--multiple sources considered
   and to date->C. Diff, Sinusitis and possible catheter related blood
   stream infection has all been likely contributing.
   1)Respiratory Failure-
   -PSV wean to continue as tolerated
   -In the setting of negative fluid balance will consider PEEP wean
   2)Fever-Are treating sinusitis, C. Diff and VAP
   C. Diff- on Flagyl for 2 weeks after d/c of all ABX
   Sinusitis-Will complete Afrin for Rx and continue with antibiotics
   Pneumonia is a concern but we have minimal change in pulmonary
   infiltrates and will complete course of treatment.
   Linezolid/Meropenem - for now
   3) SVT: on beta blocker but need to uptitrate, review old records as
   apparent Cards conult but this is not sinus tach may be
   4)Sub Dural Hematoma-
   -Sedation wean to off expected
 titrate fent down to 75 today,
   -Seroquel as primary [**Doctor Last Name **] for agitation
   -Appreciate neuro and neurosurgery support in consideration of
   treatment plan
   Additional plan as defined in the housestaff note
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-1**] 12:07 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: chlorhex, HOB.
   Communication:  Need to set up familoy meeting for next week
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2157-01-02 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * patient w/tachycardia - up to rate of 150's - looked like NSVT.
       checked ekg, was unchanged.
     * stable overnight, weaning vent settings and sedation
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2157-1-1**] 03:34 PM
   Metronidazole - [**2157-1-2**] 01:49 AM
   Linezolid - [**2157-1-2**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Furosemide (Lasix) - 7 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-2**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 120 (102 - 148) bpm
   BP: 155/34(68) {92/34(64) - 155/90(103)} mmHg
   RR: 10 (0 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.3 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 11 (8 - 86)mmHg
   Total In:
                                                                  3,144 mL
                                                                    852 mL
   PO:
   TF:
                                                                    842 mL
                                                                    232 mL
   IVF:
                                                                  1,702 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  4,060 mL
                                                                  1,110 mL
   Urine:
                                                                  4,060 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -916 mL
                                                                   -258 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 525 (525 - 847) mL
   PS : 14 cmH2O
   RR (Spontaneous): 11
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 98%
   ABG: ///36/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally, EOM intact
   Head, Ears, Nose, Throat: Tracheostomy in place, site clean and dry.
   Cardiovascular:  Distant heart sounds. Tachycardic but no murmurs
   auscultated.
   Respiratory / Chest: Rhonchorous breath sounds bilaterally
   Abdominal: Soft, Bowel sounds present, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Awake, alert, responsive, following simple commands, moves
   all four extremities spontaneously
   Labs / Radiology
   590 K/uL
   9.1 g/dL
   110 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.8 mEq/L
   9 mg/dL
   95 mEq/L
   137 mEq/L
   27.4 %
   8.4 K/uL
        [image002.jpg]
                            [**2156-12-29**]  09:10 PM
                            [**2156-12-30**]  02:42 AM
                            [**2156-12-30**]  04:09 PM
                            [**2156-12-30**]  06:05 PM
                            [**2156-12-31**]  02:01 AM
                            [**2156-12-31**]  04:10 PM
                            [**2156-12-31**]  10:14 PM
                            [**2157-1-1**]  02:11 AM
                            [**2157-1-1**]  04:21 AM
                            [**2157-1-2**]  02:42 AM
   WBC
   11.5
   14.2
   10.8
   8.4
   Hct
   25.7
   25.7
   25.9
   26.8
   27.4
   Plt
   528
   521
   583
   590
   Cr
   1.0
   0.9
   0.8
   0.7
   0.7
   0.6
   0.7
   0.7
   TCO2
   29
   34
   Glucose
   110
   106
   113
   139
   128
   126
   130
   110
   Other labs: PT / PTT / INR:12.1/25.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:17.2 %, Mono:6.0 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers and respiratory failure.
   Transferred to the MICU service, in order to further evaluate
   persistent fevers and AMS.
   .
   # Fevers: Causes for fever include PNA given sputum and BAL results and
   now C. Diff positive.  Bronch showing Staph Aureus, likely MRSA given
   prior sputums with MRSA.  [**Last Name (un) 567**] stim test was appropriate response.
   Subclavian line changed, tip culture with no growth.
   - continue Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   with Meropenem to cover pseudomonas and IV Flagyl
   - Continue PO vanco today for C. Diff, Continue IV Flagyl
   - continue to follow cultures
   # Respiratory failure: Multifactorial with PNA, pulmonary edema, fluid
   collection, also secondary to altered mental status or even a central
   process given the head bleed. BAL showed Staph Aureus which did not
   have sensitivities.
   - Switch to PS to attempt to wean, decrease pressure support as
   possible
   - Lasix gtt for diuresis as tolerated by BP, goal negative today
   - Nebs and suctioning
   - wean versed slowly
   .# Mental status: likely multifactorial including medications,
   subdurals, infection all are likely contributing. Neurology does not
   feel seizures are likely cause. LP did not show any organisms or
   suggest any meningitis.  EEG showed severe encephalopathy of both
   cortical and subcortical structures which  may be due to increased
   intracranial pressure, no focal deficits or seizure activity. MS
   improving as sedation is weaned.
   - Follow neurology recs
 should re-eval once patient is extubated
   - Hold and wean as many sedating medications as possible with daily
   wake up.
   - monitor neuro exams
   - increase Clonazepam to 1mg PO TID
   - use Seroquel for agitation
   - decrease Versed with slow taper per neurosurg recs
   # Hypotension: Pt may have had sepsis which is now resolving.  MAPs
   stable.  Medications (Lasix) contributed to low BP.  No pressors
   necessary.  Urine output good.
   - PRN fluids for volume resuscitation
   - Lasix gtt for diuresis, monitor BP
   # Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.
   - Monitor on tele
   - Review chart, consult cardiology if not already consulted
   - increase metroprolol dose to 75mg TID
   # Subdural hematomas: Neurosurgery will continue to follow.  Appear
   improved/stable from prior imaging.
   - Continue Keppra for seizure ppx
   # Hypothyroidism: continue levothyroxine.
   # F: Diurese with a goal of negative over the day.
      E: Replete PRN
      N: On tube feeds to goal. Continue insulin SS for glycemic control,
   monitor blood sugars.  PEG tube when afebrile X 24 hours.
   # PPX: Heparin SQ for DVT ppx, chlorhexidine mouth care, Ranitidine,
   bowel regimen.
   # Access: R subclavian inserted [**2156-12-28**]
   # Code Status: Full
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-2**] 05:15 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-02 11:26:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tachycardia with episodes rising to 160's then breaking and titrating
   up bblocker
   Has become more alert but also more agitated
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2157-1-1**] 03:34 PM
   Metronidazole - [**2157-1-2**] 01:49 AM
   Linezolid - [**2157-1-2**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Furosemide (Lasix) - 7 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-1-2**] 10:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-2**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 118 (102 - 134) bpm
   BP: 134/81(92) {98/34(66) - 155/87(97)} mmHg
   RR: 18 (10 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.3 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 15 (2 - 17)mmHg
   Total In:
                                                                  3,144 mL
                                                                  1,145 mL
   PO:
   TF:
                                                                    842 mL
                                                                    395 mL
   IVF:
                                                                  1,702 mL
                                                                    570 mL
   Blood products:
   Total out:
                                                                  4,060 mL
                                                                  1,910 mL
   Urine:
                                                                  4,060 mL
                                                                  1,510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -916 mL
                                                                   -765 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 719 (525 - 812) mL
   PS : 14 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: ///36/
   Ve: 16.5 L/min
   Physical Examination
   Gen: sitting up in chair, alert, slightly agitated
   CV: tachy RR
   Chest: CTA
   Abd: obese distended + BS
   Ext: no edema
   Neuro: awake, agitated moving arms and legs purposefully and
   occasionally following simple commands but unclear how much he is
   comprehending of requests
   Labs / Radiology
   9.1 g/dL
   590 K/uL
   110 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.8 mEq/L
   9 mg/dL
   95 mEq/L
   137 mEq/L
   27.4 %
   8.4 K/uL
        [image002.jpg]
                            [**2156-12-29**]  09:10 PM
                            [**2156-12-30**]  02:42 AM
                            [**2156-12-30**]  04:09 PM
                            [**2156-12-30**]  06:05 PM
                            [**2156-12-31**]  02:01 AM
                            [**2156-12-31**]  04:10 PM
                            [**2156-12-31**]  10:14 PM
                            [**2157-1-1**]  02:11 AM
                            [**2157-1-1**]  04:21 AM
                            [**2157-1-2**]  02:42 AM
   WBC
   11.5
   14.2
   10.8
   8.4
   Hct
   25.7
   25.7
   25.9
   26.8
   27.4
   Plt
   528
   521
   583
   590
   Cr
   1.0
   0.9
   0.8
   0.7
   0.7
   0.6
   0.7
   0.7
   TCO2
   29
   34
   Glucose
   110
   106
   113
   139
   128
   126
   130
   110
   Other labs: PT / PTT / INR:12.1/25.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:17.2 %, Mono:6.0 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 TACHYCARDIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 SUBDURAL HEMORRHAGE (SDH)
 CARDIAC DYSRHYTHMIA OTHER
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   64 yo male with initial admission with bilateral sub-dural hematoma.
   He has had prolonged hospital course with slow to improve mental
   status.  We have made substantial efforts to decrease sedation to allow
   improvement in his mental status or lack of progress to be evaluated.
   In addition, he has had recurrent fevers--multiple sources considered
   and to date->C. Diff, Sinusitis and possible catheter related blood
   stream infection has all been likely contributing.
   1)Respiratory Failure- Looks better today. Alert and he has been
   consistently negative. Trial SBT and even short trach collar sprints as
   this may help with his frustration.
   2)Fever- overall curve is down.
   C. Diff- on Flagyl for 2 weeks after d/c of all ABX
   Sinusitis-Will complete Afrin for Rx and continue with antibiotics
   Pneumonia is a concern but we have minimal change in pulmonary
   infiltrates and will complete course of treatment.
   Linezolid/Meropenem - for now
   3) SVT: on beta blocker but need to uptitrate, review old records as
   apparent Cards consult but this is not sinus tach may be re entrant
   rhythm
   4)Sub Dural Hematoma--Sedation wean to off expected
 titrate fent down
   to 50 today, -Seroquel as primary [**Doctor Last Name **] for agitation
   Additional plan as defined in the housestaff note
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-2**] 05:15 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   VAP: HOB chlorhex
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2157-01-03 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2157-1-3**] 03:06 AM
   Pt able to be weaned to pressure support
   Seroquel increased to 75 mg TID for agitation
   Pt pulled up OGT with tongue so NGT placed
   Pt had hematuria, UA & culture sent
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2157-1-3**] 02:00 AM
   Linezolid - [**2157-1-3**] 04:00 AM
   Meropenem - [**2157-1-3**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 80 mcg/hour
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-1-2**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-3**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 139 (108 - 143) bpm
   BP: 102/62(73) {91/53(61) - 146/101(109)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 10 (2 - 18)mmHg
   Total In:
                                                                  2,558 mL
                                                                    778 mL
   PO:
   TF:
                                                                    784 mL
                                                                    212 mL
   IVF:
                                                                  1,404 mL
                                                                    566 mL
   Blood products:
   Total out:
                                                                  2,818 mL
                                                                    238 mL
   Urine:
                                                                  2,418 mL
                                                                    238 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -260 mL
                                                                    540 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 654 (287 - 719) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ///35/
   Ve: 11.3 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally, EOM intact
   Head, Ears, Nose, Throat: Tracheostomy in place, site clean and dry.
   Cardiovascular:  Distant heart sounds. Tachycardic but no murmurs
   auscultated.
   Respiratory / Chest: Rhonchorous breath sounds bilaterally
   Abdominal: Soft, Bowel sounds present, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Awake, alert, responsive, following simple commands, moves
   all four extremities spontaneously
   Labs / Radiology
   694 K/uL
   10.2 g/dL
   102 mg/dL
   0.7 mg/dL
   35 mEq/L
   4.5 mEq/L
   11 mg/dL
   96 mEq/L
   136 mEq/L
   31.3 %
   10.4 K/uL
        [image002.jpg]
                            [**2156-12-30**]  04:09 PM
                            [**2156-12-30**]  06:05 PM
                            [**2156-12-31**]  02:01 AM
                            [**2156-12-31**]  04:10 PM
                            [**2156-12-31**]  10:14 PM
                            [**2157-1-1**]  02:11 AM
                            [**2157-1-1**]  04:21 AM
                            [**2157-1-2**]  02:42 AM
                            [**2157-1-2**]  04:04 PM
                            [**2157-1-3**]  02:50 AM
   WBC
   14.2
   10.8
   8.4
   10.4
   Hct
   25.9
   26.8
   27.4
   31.3
   Plt
   521
   583
   590
   694
   Cr
   0.8
   0.7
   0.7
   0.6
   0.7
   0.7
   0.7
   0.7
   TCO2
   29
   34
   Glucose
   113
   139
   128
   126
   130
   110
   131
   102
   Other labs: PT / PTT / INR:12.1/25.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:17.2 %, Mono:6.0 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers and respiratory failure.
   Transferred to the MICU service, in order to further evaluate
   persistent fevers and AMS.
   .
   # Fevers: MRSA in sputum and now acinitobacter.  [**Last Name (un) 567**] stim test was
   appropriate response.  Subclavian line changed, tip culture with no
   growth.
   - Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   - Meropenem to cover acinitobacter, VAP and possible pseudomonas (start
   date = [**12-29**], 14 day course)
   - IV Flagyl for C. Diff, day #1 = [**12-28**]
 will treat for 2 weeks after
   other abxs stopped
   - PO Vanc for C. Diff day #1 = [**12-31**]
 will treat for 2 weeks after
   other abxs stopped
   - continue to follow cultures
   # Respiratory failure: Multifactorial with PNA, pulmonary edema, fluid
   collection, also secondary to altered mental status or even a central
   process given the head bleed. BAL showed Staph Aureus which did not
   have sensitivities.
   - trach mask today as tolerated with PS if needed
   - stop Lasix gtt today and continue to assess fluid status
   - Nebs and suctioning
   .# Mental status: likely multifactorial including medications,
   subdurals, infection all are likely contributing. Neurology does not
   feel seizures are likely cause. LP did not show any organisms or
   suggest any meningitis.  EEG showed severe encephalopathy of both
   cortical and subcortical structures which  may be due to increased
   intracranial pressure, no focal deficits or seizure activity. MS
   improving as sedation is weaned.  Most likely central process.  Pt is
   now receiving Versed, Clonazepam and Ativan PRN for agitation.  Will
   need to adjust meds for better control on less agents.
   - repeat head CT today per neuro
   - will stop Clonazepam, Fentanyl, Versed today and treat with Ativan
   - psych consult for further recommendations
   - Seroquel 75mg PO TID and PRN
   - continue to check ECGs for QTc prolongation given Seroquel
   .
   # Hypotension: Pt may have had sepsis which is now resolving.  MAPs
   stable.  Medications (Lasix) contributed to low BP.  No pressors
   necessary.  Urine output good.
   - PRN fluids for volume resuscitation
   - hold on Lasix today
   .
   # Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.  Most likely from agitation
   as pt has been responsive with ativan.
   - Monitor on tele
   - metroprolol dose to 75mg TID
   # Subdural hematomas: Neurosurgery will continue to follow.  Appear
   improved/stable from prior imaging.
   - Continue Keppra for seizure ppx
   # Hypothyroidism: continue levothyroxine.
   # F: attempt to maintain fluids even today.
      E: Replete PRN
      N: On tube feeds to goal. Continue insulin SS for glycemic control,
   monitor blood sugars.  PEG in AM, NPO after midnight.
   # PPX: Heparin SQ for DVT ppx, chlorhexidine mouth care, Ranitidine,
   bowel regimen.
   # Access: R subclavian inserted [**2156-12-28**]
   # Code Status: Full
   # Dispo: ICU level of care, may consider calling out to floor if
   agitation can be managed.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-3**] 12:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-03 11:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sub-Dural Hematoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   -Patient with wean to PSV 5/5
   -Patient without fever in past 24 hours
   -Acinetobacter noted in sputum
   24 Hour Events:
 SPUTUM CULTURE - At [**2157-1-3**] 03:06 AM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2157-1-3**] 02:00 AM
   Linezolid - [**2157-1-3**] 04:00 AM
   Meropenem - [**2157-1-3**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Furosemide (Lasix) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-1-3**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2157-1-3**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 125 (108 - 143) bpm
   BP: 108/67(76) {91/51(60) - 146/101(109)} mmHg
   RR: 21 (14 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 9 (5 - 244)mmHg
   Total In:
                                                                  2,558 mL
                                                                  1,094 mL
   PO:
   TF:
                                                                    784 mL
                                                                    382 mL
   IVF:
                                                                  1,404 mL
                                                                    622 mL
   Blood products:
   Total out:
                                                                  2,818 mL
                                                                    503 mL
   Urine:
                                                                  2,418 mL
                                                                    503 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -260 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 623 (287 - 654) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///35/
   Ve: 11.3 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   694 K/uL
   102 mg/dL
   0.7 mg/dL
   35 mEq/L
   4.5 mEq/L
   11 mg/dL
   96 mEq/L
   136 mEq/L
   31.3 %
   10.4 K/uL
        [image002.jpg]
                            [**2156-12-30**]  04:09 PM
                            [**2156-12-30**]  06:05 PM
                            [**2156-12-31**]  02:01 AM
                            [**2156-12-31**]  04:10 PM
                            [**2156-12-31**]  10:14 PM
                            [**2157-1-1**]  02:11 AM
                            [**2157-1-1**]  04:21 AM
                            [**2157-1-2**]  02:42 AM
                            [**2157-1-2**]  04:04 PM
                            [**2157-1-3**]  02:50 AM
   WBC
   14.2
   10.8
   8.4
   10.4
   Hct
   25.9
   26.8
   27.4
   31.3
   Plt
   521
   583
   590
   694
   Cr
   0.8
   0.7
   0.7
   0.6
   0.7
   0.7
   0.7
   0.7
   TCO2
   29
   34
   Glucose
   113
   139
   128
   126
   130
   110
   131
   102
   Other labs: PT / PTT / INR:12.1/25.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:17.2 %, Mono:6.0 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR-NGT in good position, Trach and CVL in good positoin
   No new infiltrates seen
   Assessment and Plan
   64 yo male with bilateral sub-dural hematoma now with improved
   alertness in the setting of sedation weaning and capacity fo wean
   extent of ventilator support.
   1)Respiratory Failure-
   -Trial to trach mask trials today
   -WIll continue with PSV in interim
   -Goal is for 2 hour TM trials 2x/d at a minimum
   -Return to PSV overnight
   -Will need to continue with Rx fof VAP with
   -Linezolid x 21 days
   -Meropenem to continue
   2)Sub-Dural Hematoma
   -Minimize sedating medications
   -Continue with supportive care
   3)Altered Mental Status
This is likely a combination of factors
   including the underlying hematoma insult, active infection, paradoxical
   effects of sedating medications.  Will need to find a more optimal PRN
   dosing.
   -Seroquel dosing PRN and standing
   -Ativan PRN for benzo dosing only and wean Versed to off and D/C
   Clonazepam
   -Fentanyl-will move to wean as possible
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)-
   -On Flagyl and Vancomycin for two weeks beyond D/C of other antibiotics
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 TACHYCARDIA, OTHER-
   -Continue with sedation titration
   -B-blocker as needed
   -Will need to Rx infection, control agitation as possible
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SUBDURAL HEMORRHAGE (SDH)
 CARDIAC DYSRHYTHMIA OTHER
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION64
   ICU Care
   Nutrition: G-tube planning for tomorrow
   Nutren 2.0 (Full) - [**2157-1-3**] 12:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2157-01-04 06:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  agitation, tachycardia
   24 Hour Events:
     * EKG - At [**2157-1-3**] 09:00 PM
 S1Q3T3, sinus tachycardia, QTc WNL.
     * Psych consulted - recommended starting d/c Seroquel, Clonazepam,
       Versed and give Haldol with Ativan taper
     * Episode of desaturation at 9pm after sliding down bed and
       obstructing trach mask, put on vent after this with gas unchanged
     * Agitated all night; got Haldol 5mg X 2, then Ativan 1mg, 2mg at
       1am.  At 5am, agitated again, got Haldol 5mg X 1, then Ativan 1mg X
       2.  At 8am, agitated again, got Haldol 5mg and Ativan 2mg.
     * Head CT negative
     * NPO p midnight for PEG today
   Allergies:
   Ampicillin
   Unknown;
   Antibiotics:
   Linezolid
   Metronidazole
   Meropenem
   Vancomycin PO
   Fluconazole
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-1-3**] 08:04 AM
   Metoprolol - [**2157-1-3**] 09:30 PM
   Haloperidol (Haldol) - [**2157-1-4**] 12:50 AM
   Lorazepam (Ativan) - [**2157-1-4**] 01:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to assess
   Flowsheet Data as of  [**2157-1-4**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 148 (114 - 151) bpm
   BP: 131/76(91) {92/46(58) - 147/92(98)} mmHg
   RR: 16 (16 - 40) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 13 (1 - 243)mmHg
   Total In:
                                                                  2,040 mL
                                                                    729 mL
   PO:
   TF:
                                                                    840 mL
                                                                    209 mL
   IVF:
                                                                    960 mL
                                                                    490 mL
   Blood products:
   Total out:
                                                                  1,066 mL
                                                                    297 mL
   Urine:
                                                                  1,066 mL
                                                                    297 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    974 mL
                                                                    432 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 677 (560 - 864) mL
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.45/48/81.[**Numeric Identifier 252**]/34/7 (1am, back on ventilator)
   Ve: 13 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: Agitated, straining against restraints. Overweight
   / Obese. Denies pain.
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally, EOM intact
   Head, Ears, Nose, Throat: Tracheostomy in place, site clean and dry.
   Cardiovascular:  Distant heart sounds. Tachycardic but no murmurs
   auscultated.
   Respiratory / Chest: Rhonchorous breath sounds bilaterally
   Abdominal: Soft, Bowel sounds present, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Awake, alert, responsive, following simple commands, moves
   all four extremities spontaneously
   Labs / Radiology
   685 K/uL
   11.0 g/dL
   85 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.6 mEq/L
   13 mg/dL
   100 mEq/L
   139 mEq/L
   32.4 %
   12.8 K/uL
        [image002.jpg]
                            [**2156-12-31**]  02:01 AM
                            [**2156-12-31**]  04:10 PM
                            [**2156-12-31**]  10:14 PM
                            [**2157-1-1**]  02:11 AM
                            [**2157-1-1**]  04:21 AM
                            [**2157-1-2**]  02:42 AM
                            [**2157-1-2**]  04:04 PM
                            [**2157-1-3**]  02:50 AM
                            [**2157-1-4**]  01:00 AM
                            [**2157-1-4**]  02:57 AM
   WBC
   14.2
   10.8
   8.4
   10.4
   12.8
   Hct
   25.9
   26.8
   27.4
   31.3
   32.4
   Plt
   521
   583
   590
   694
   685
   Cr
   0.7
   0.7
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   34
   34
   Glucose
   139
   128
   126
   130
   110
   131
   102
   85
   Other labs: Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   UA: >50RBC, [**7-27**] WBC, Moderate Bacteria, UCx pending
   CDiff positive [**12-30**]
   Sputum [**12-29**]
 staph aureus, acinetobacter
   Sputum [**1-3**] x2 respiratory contamination
   Head CT ([**1-4**]): stable size and configuration of b/l subdural
   collections
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers, persistant tachycardia and
   respiratory failure.  Transferred to the MICU service, in order to
   further evaluate persistent fevers and AMS. Tracheostomy for inability
   to wean from ventilator, sedation.
   #1 Fevers: MRSA in sputum and now acinitobacter.  [**Last Name (un) 567**] stim test was
   appropriate response.  Subclavian line changed, tip culture with no
   growth.  Was afebrile for several days and then spiked fever again on
   [**12-30**] which we are attributing to CDiff infection.  Patient started on
   treatment for CDiff on [**12-31**].  Now afebrile since [**1-1**] at 4am.
   - Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   - Meropenem to cover acinitobacter, VAP and possible pseudomonas (start
   date = [**12-29**], 14 day course
 start date based on when patient was
   afebrile before fever spiked again but presumed due to Cdiff).
   - IV Flagyl for C. Diff, day #1 = [**12-28**]
 will treat for 2 weeks after
   other abxs stopped
   - PO Vanc for C. Diff day #1 = [**12-31**]
 will treat for 2 weeks after
   other abxs stopped
   - need to repeat sputum culture b/c last 2 contaminated
   - continue to follow cultures
   #2 Respiratory failure: Multifactorial with Hx of PNA, pulmonary edema,
   fluid collection, also secondary to altered mental status or even a
   central process given the head bleed. BAL showed Staph Aureus w/no
   sensitivities, although endotracheal sputum sample from the same day
   showed S. Aureus sensitive to Vanco, Gent, Tetracycline, and Bactrim.
   Had one episode of respiratory distress last night due to mechanical
   obstruction after which he had to be put back on the vent overnight.
   - continue linezolid and meropenem as above.
   - trach mask today as tolerated with PS if needed
   - stop Lasix gtt today and continue to assess fluid status
   - Nebs and suctioning
   #3 Mental status/agitation: likely multifactorial including
   medications, subdurals, infection, long stay in ICU -> delirium.
   Neurology does not feel seizures are likely cause. LP did not show any
   organisms or suggest any meningitis.  EEG showed severe encephalopathy
   of both cortical and subcortical structures which may be due to
   increased intracranial pressure, no focal deficits or seizure activity.
   MS improving as sedation is weaned, although he has been very agitated
   over the last 48 hours.  Repeat head CT shows no change.  Psych
   recommended d/c seroquel and use Haldol 2.5mg TID and Ativan 0.5mg [**Hospital1 **].
   Patient required quite a bit of PRN Haldol and Ativan last night for
   agitation.  Because patient has been on high doses of several
   benzodiazepines, it is likely that 0.5mg Ativan [**Hospital1 **] is not enough to
   adequately wean her off of benzodiazepines.
   - Change Ativan to Valium 10mg PO TID w/Valium 5mg PO PRN.
   - Increase Haldol to 5mg TID
   - will wean Fentanyl 20% per day
   - psychiatry to follow
   .
   #4 Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.  Likely from agitation as pt
   has been responsive with ativan, however over the last 48 hours the
   patient has been persistently more tachycardic (130
 140
s) than has
   been over the last few weeks. EKG shows sinus rhythm.  Concern for PE.
   Will need to discuss with neuro whether patient is anticoagulation
   candidate given recent subdurals.  Have checked TSH recently, was
   slightly elevated (unlikely that tachycardia is due to
   hyperthyroidism).
   - CTA to r/o PE
   - B/L LE U/S to r/o DVT
   - Monitor on tele
   - metroprolol dose to 75mg TID
   #  Subdural hematomas: Neurosurgery will continue to follow.  Appear
   improved/stable from prior imaging.
   - Continue Keppra for seizure ppx
   #  Hypothyroidism: continue levothyroxine.
   # F: attempt to maintain fluids even today.
      E: Replete PRN
      N: On tube feeds to goal. Continue insulin SS for glycemic control,
   monitor blood sugars.  PEG in AM, NPO after midnight.
   # PPX: Heparin SQ for DVT ppx, chlorhexidine mouth care, Ranitidine,
   bowel regimen.
   # Access: R subclavian inserted [**2156-12-28**]
   # Code Status: Full
   # Dispo: ICU level of care, may consider calling out to floor if
   agitation can be managed.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-3**] 05:08 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-04 09:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   SDH
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   patient with recurrent agitation overnight--escalating doses of Haldol
   and Ativan tried with minimal effect.
   Transient hypoxemia with increased vent support required transiently
   24 Hour Events:
 EKG - At [**2157-1-3**] 09:00 PM
   History obtained from Medical records
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2157-1-3**] 10:00 AM
   Meropenem - [**2157-1-3**] 11:00 AM
   Vancomycin - [**2157-1-3**] 12:00 PM
   Fluconazole - [**2157-1-4**] 02:00 AM
   Linezolid - [**2157-1-4**] 04:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Metoprolol - [**2157-1-3**] 09:30 PM
   Haloperidol (Haldol) - [**2157-1-4**] 12:50 AM
   Lorazepam (Ativan) - [**2157-1-4**] 01:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-4**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 147 (114 - 151) bpm
   BP: 112/62(161) {92/46(58) - 155/102(161)} mmHg
   RR: 24 (16 - 40) insp/min
   SpO2: 86%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 13 (1 - 18)mmHg
   Total In:
                                                                  2,040 mL
                                                                    884 mL
   PO:
   TF:
                                                                    840 mL
                                                                    318 mL
   IVF:
                                                                    960 mL
                                                                    536 mL
   Blood products:
   Total out:
                                                                  1,066 mL
                                                                    460 mL
   Urine:
                                                                  1,066 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    974 mL
                                                                    424 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 560 (560 - 864) mL
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 11 cmH2O
   SpO2: 86%
   ABG: 7.45/48/81.[**Numeric Identifier 252**]/32/7
   Ve: 7.7 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   685 K/uL
   85 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.6 mEq/L
   13 mg/dL
   100 mEq/L
   139 mEq/L
   32.4 %
   12.8 K/uL
        [image002.jpg]
                            [**2156-12-31**]  02:01 AM
                            [**2156-12-31**]  04:10 PM
                            [**2156-12-31**]  10:14 PM
                            [**2157-1-1**]  02:11 AM
                            [**2157-1-1**]  04:21 AM
                            [**2157-1-2**]  02:42 AM
                            [**2157-1-2**]  04:04 PM
                            [**2157-1-3**]  02:50 AM
                            [**2157-1-4**]  01:00 AM
                            [**2157-1-4**]  02:57 AM
   WBC
   14.2
   10.8
   8.4
   10.4
   12.8
   Hct
   25.9
   26.8
   27.4
   31.3
   32.4
   Plt
   521
   583
   590
   694
   685
   Cr
   0.7
   0.7
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   34
   34
   Glucose
   139
   128
   126
   130
   110
   131
   102
   85
   Other labs: PT / PTT / INR:12.1/25.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:17.2 %, Mono:6.0 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: 7.45/48/81
   Imaging: Head CT--no change in SDH
   ECG: nl axis, nl QTC intervals.  Patient with tachcardia---sinus
   tachycardia
   Assessment and Plan
   64 yo male admit with bilateral SDH and with prolonged course of
   respiratory failure now with good tolerance of trach mask trials.  He
   has ongoing challenges of wean of sedation in the setting of what was
   previously significant doses of benzodiazepines.
   1)Agitation-This manifests as movements, tachycardia and tremor
This
   will be continued titration in sedating medications as well as path to
   define any underlying source that my currently be unresolved
however he
   has WBC, Na+, LFT
s which have all been within normal limits of late.
   There is a real suspicion for possible withdrawl effects of rapid
   decrease in benzodiazepine dosing.  The leading sources are medication
   withdrawl, SDH, ICU delirium all contributing.
   -Will check ECG, CXR,
   -Haldol 2.5mg [**Hospital1 **] and will increase to 5mg [**Hospital1 **] as background
   -Valium po
will continue with 5mg doses to titrate to effect as Ativan
   has proven to be a rapid taper and may be contributing to withdrawl
   symptoms.  Start with Valium 10mg po tid
   -Fentanyl gtt continuing and will move to wean off today
   -Have considered EEG and LP for evaluation of possible sources in the
   setting of SDH and prolonged illness if not able to rapidly diminish
   agitation
   2)Respiratory Failure-
   -Trach in place and patient with successful wean to TM trial today
   -Continue
   3)SDH--
   -Keppra
   -Repeat CT shows no change
   4)Sepsis-
   -Vanco/Meropenem for VAP
   -Linezolid to continue for likely catheter related bloodstream
   infection
   5)Tachycardia-This is a sinus tachycardia with periodic elevations to
   140-150.  The differential for this is led by pain, discomfort,
   agitation but has failed to decrease with control of sedation.  Do not
   see evidence of alternative focus on ECG as P-wave axis is normal on
   the ECG during persistent tachycardia.
   -TSH has been sent and is normal
   -Patient with persistent tachycardia noted across past week--this has
   reliably been manifest as sinus tachycardia
   -Will scan for PE to consider diagnosis
   -Will obtain LENI
   Additional active issues to be addressed as defined in housestaff note
   of this date.
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 TACHYCARDIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SUBDURAL HEMORRHAGE (SDH)
 CARDIAC DYSRHYTHMIA OTHER
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-3**] 05:08 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2157-01-05 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2157-1-5**] 12:07 AM
 SPUTUM CULTURE - At [**2157-1-5**] 01:35 AM
     * tachycardic to 140's to 150's -> EKG showed sinus tachycardia ->
       gave all PRNs w/out improvement -> then gave 1x 25mg Metoprolol PO,
       1mg Ativan
     * CTA: negative for PE
     * LENI: neg for DVT
     * fentanyl NOT weaned yesterday/overnight (b/c of agiation? should
       clarify w/nurses)
     * Needs discussion with case management RE rehab (probably does not
       need [**Hospital 2733**] rehab)
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2157-1-3**] 12:00 PM
   Fluconazole - [**2157-1-4**] 02:00 AM
   Metronidazole - [**2157-1-5**] 02:03 AM
   Meropenem - [**2157-1-5**] 04:02 AM
   Linezolid - [**2157-1-5**] 04:04 AM
   Infusions:
   Fentanyl - 80 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2157-1-4**] 08:19 AM
   Haloperidol (Haldol) - [**2157-1-4**] 08:20 AM
   Insulin - Regular - [**2157-1-4**] 11:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-5**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 134 (119 - 151) bpm
   BP: 153/95(108) {94/43(62) - 155/108(161)} mmHg
   RR: 17 (14 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 5 (0 - 10)mmHg
   Total In:
                                                                  1,144 mL
                                                                    588 mL
   PO:
   TF:
                                                                    245 mL
   IVF:
                                                                    809 mL
                                                                    588 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    355 mL
   Urine:
                                                                  1,470 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -326 mL
                                                                    233 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 560 (560 - 560) mL
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///30/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: Agitated, straining against restraints. Overweight
   / Obese. Denies pain.
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally, EOM intact
   Head, Ears, Nose, Throat: Tracheostomy in place, site clean and dry.
   Cardiovascular:  Distant heart sounds. Tachycardic but no murmurs
   auscultated.
   Respiratory / Chest: Rhonchorous breath sounds bilaterally
   Abdominal: Soft, Bowel sounds present, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Awake, alert, responsive, following simple commands, moves
   all four extremities spontaneously
   Labs / Radiology
   683 K/uL
   9.8 g/dL
   115 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.3 mEq/L
   9 mg/dL
   104 mEq/L
   140 mEq/L
   30.1 %
   8.6 K/uL
        [image002.jpg]
                            [**2156-12-31**]  04:10 PM
                            [**2156-12-31**]  10:14 PM
                            [**2157-1-1**]  02:11 AM
                            [**2157-1-1**]  04:21 AM
                            [**2157-1-2**]  02:42 AM
                            [**2157-1-2**]  04:04 PM
                            [**2157-1-3**]  02:50 AM
                            [**2157-1-4**]  01:00 AM
                            [**2157-1-4**]  02:57 AM
                            [**2157-1-5**]  04:39 AM
   WBC
   10.8
   8.4
   10.4
   12.8
   8.6
   Hct
   26.8
   27.4
   31.3
   32.4
   30.1
   Plt
   583
   590
   694
   685
   683
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   34
   34
   Glucose
   128
   126
   130
   110
   131
   102
   85
   115
   Other labs: PT / PTT / INR:12.1/25.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:68.3 %, Band:0.0 %,
   Lymph:18.6 %, Mono:8.7 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers, persistant tachycardia and
   respiratory failure.  Transferred to the MICU service, in order to
   further evaluate persistent fevers and AMS. Tracheostomy for inability
   to wean from ventilator, sedation.
   #1 Fevers: MRSA in sputum and now acinitobacter.  [**Last Name (un) 567**] stim test was
   appropriate response.  Subclavian line changed, tip culture with no
   growth.  Was afebrile for several days and then spiked fever again on
   [**12-30**] which we are attributing to CDiff infection.  Patient started on
   treatment for CDiff on [**12-31**].  Now afebrile since [**1-1**] at 4am.
   - Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   - Meropenem to cover acinitobacter, VAP and possible pseudomonas (start
   date = [**12-29**], 14 day course
 start date based on when patient was
   afebrile before fever spiked again but presumed due to Cdiff).
   - IV Flagyl for C. Diff, day #1 = [**12-28**]
 will treat for 2 weeks after
   other abxs stopped
   - PO Vanc for C. Diff day #1 = [**12-31**]
 will treat for 2 weeks after
   other abxs stopped
   - need to repeat sputum culture b/c last 2 contaminated
   - continue to follow cultures
   #2 Respiratory failure: Multifactorial with Hx of PNA, pulmonary edema,
   fluid collection, also secondary to altered mental status or even a
   central process given the head bleed. BAL showed Staph Aureus w/no
   sensitivities, although endotracheal sputum sample from the same day
   showed S. Aureus sensitive to Vanco, Gent, Tetracycline, and Bactrim.
   Had one episode of respiratory distress last night due to mechanical
   obstruction after which he had to be put back on the vent overnight.
   - continue linezolid and meropenem as above.
   - trach mask today as tolerated with PS if needed
   - stop Lasix gtt today and continue to assess fluid status
   - Nebs and suctioning
   #3 Mental status/agitation: likely multifactorial including
   medications, subdurals, infection, long stay in ICU -> delirium.
   Neurology does not feel seizures are likely cause. LP did not show any
   organisms or suggest any meningitis.  EEG showed severe encephalopathy
   of both cortical and subcortical structures which may be due to
   increased intracranial pressure, no focal deficits or seizure activity.
   MS improving as sedation is weaned, although he has been very agitated
   over the last 48 hours.  Repeat head CT shows no change.  Psych
   recommended d/c seroquel and use Haldol 2.5mg TID and Ativan 0.5mg [**Hospital1 **].
   Patient required quite a bit of PRN Haldol and Ativan last night for
   agitation.  Because patient has been on high doses of several
   benzodiazepines, it is likely that 0.5mg Ativan [**Hospital1 **] is not enough to
   adequately wean her off of benzodiazepines.
   - Change Ativan to Valium 10mg PO TID w/Valium 5mg PO PRN.
   - Increase Haldol to 5mg TID
   - will wean Fentanyl 20% per day
   - psychiatry to follow
   .
   #4 Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.  Likely from agitation as pt
   has been responsive with ativan, however over the last 48 hours the
   patient has been persistently more tachycardic (130
 140
s) than has
   been over the last few weeks. EKG shows sinus rhythm.  Concern for PE.
   Will need to discuss with neuro whether patient is anticoagulation
   candidate given recent subdurals.  Have checked TSH recently, was
   slightly elevated (unlikely that tachycardia is due to
   hyperthyroidism).
   - CTA to r/o PE
   - B/L LE U/S to r/o DVT
   - Monitor on tele
   - metroprolol dose to 75mg TID
   #  Subdural hematomas: Neurosurgery will continue to follow.  Appear
   improved/stable from prior imaging.
   - Continue Keppra for seizure ppx
   #  Hypothyroidism: continue levothyroxine.
   # F: attempt to maintain fluids even today.
      E: Replete PRN
      N: On tube feeds to goal. Continue insulin SS for glycemic control,
   monitor blood sugars.  PEG in AM, NPO after midnight.
   # PPX: Heparin SQ for DVT ppx, chlorhexidine mouth care, Ranitidine,
   bowel regimen.
   # Access: R subclavian inserted [**2156-12-28**]
   # Code Status: Full
   # Dispo: ICU level of care, may consider calling out to floor if
   agitation can be managed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   20 Gauge - [**2157-1-4**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-05 11:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Tachycardia
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with change to po valium for control of agitation
   Patient with CTA without evidence of PE
   24 Hour Events:
 EKG - At [**2157-1-5**] 12:07 AM
 SPUTUM CULTURE - At [**2157-1-5**] 01:35 AM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2157-1-3**] 12:00 PM
   Fluconazole - [**2157-1-4**] 02:00 AM
   Meropenem - [**2157-1-5**] 04:02 AM
   Linezolid - [**2157-1-5**] 04:04 AM
   Metronidazole - [**2157-1-5**] 10:03 AM
   Infusions:
   Fentanyl - 80 mcg/hour
   Other ICU medications:
   Insulin - Regular - [**2157-1-4**] 11:08 PM
   Heparin Sodium (Prophylaxis) - [**2157-1-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-5**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 124 (123 - 151) bpm
   BP: 138/88(100) {102/43(64) - 157/108(113)} mmHg
   RR: 16 (16 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 14 (0 - 14)mmHg
   Total In:
                                                                  1,144 mL
                                                                    870 mL
   PO:
   TF:
                                                                    245 mL
   IVF:
                                                                    809 mL
                                                                    750 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    565 mL
   Urine:
                                                                  1,470 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -326 mL
                                                                    305 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   683 K/uL
   115 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.3 mEq/L
   9 mg/dL
   104 mEq/L
   140 mEq/L
   30.1 %
   8.6 K/uL
        [image002.jpg]
                            [**2156-12-31**]  04:10 PM
                            [**2156-12-31**]  10:14 PM
                            [**2157-1-1**]  02:11 AM
                            [**2157-1-1**]  04:21 AM
                            [**2157-1-2**]  02:42 AM
                            [**2157-1-2**]  04:04 PM
                            [**2157-1-3**]  02:50 AM
                            [**2157-1-4**]  01:00 AM
                            [**2157-1-4**]  02:57 AM
                            [**2157-1-5**]  04:39 AM
   WBC
   10.8
   8.4
   10.4
   12.8
   8.6
   Hct
   26.8
   27.4
   31.3
   32.4
   30.1
   Plt
   583
   590
   694
   685
   683
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   34
   34
   Glucose
   128
   126
   130
   110
   131
   102
   85
   115
   Other labs: PT / PTT / INR:12.1/25.7/1.0, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:68.3 %, Band:0.0 %,
   Lymph:18.6 %, Mono:8.7 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   64 yo male admit with bilteral SDH and now with prolonged hospital
   course complicated by intermittent delirium and persistent respiratory
   failure which has been attributable to volume overload, mental status
   and persistent secretions all of which have improved to the point of
   patient tolerating trach mask trials.
   1)Respiratory Failure-Patient with CT scan showing only bilateral lower
   lobe consolidations consistent with collapse.  He has good tolerance of
   the trach mask trials at this time and would expect continued
   mobilization to be optimal treatment to work towards lung recruitment.
   -OOB to chair if possible
   -Suction PRN
   -Will continue to support with O2 as possible.
   -Linezolid and  Meropenem to continue
   2)Altered Mental Status-He has had substantial improvement in mental
   status over time although intermittent agitation still seen.
   -Continue with Haldol
   -Wean Benzo's as possible as there still may be a component of
   paradoxical reaction
   3)Tachycardia-Source remains to be definatively defined but this may be
   a marker of continued anxiety/agitation and PE has been ruled out.
   -Trial bolus sedation to monitor response
   -[**Month (only) 8**] need to consider background beta blocker if persistently seen to
   be fast
   -This would be beta blocker use for control of hypertension and will
   need to increase dose
   -Will check ECHO to eval baseline cardiac function as impaired stroke
   volume may be contributing.
   Additional Active issues to be addressed as per the housestaff note of
   this date.
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 TACHYCARDIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SUBDURAL HEMORRHAGE (SDH)
 CARDIAC DYSRHYTHMIA OTHER
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition: Tube Feeds to return with PEG tube placement today
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2157-01-06 05:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2157-1-5**] 10:00 AM
 TRANSTHORACIC ECHO - At [**2157-1-5**] 02:17 PM
 INVASIVE VENTILATION - START [**2157-1-5**] 03:00 PM
   placed back on vent for PEG
 PEG INSERTION - At [**2157-1-5**] 03:04 PM
 INVASIVE VENTILATION - STOP [**2157-1-5**] 10:42 PM
   placed back on vent for PEG
   - [**1-5**] EKG ok
   - ECHO wnl
   - Abx through [**1-12**]
   - meropenem dose increased per pharmacy
   - PEG placed
   - PICC today?
   - need to update case management
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2157-1-3**] 12:00 PM
   Fluconazole - [**2157-1-4**] 02:00 AM
   Meropenem - [**2157-1-6**] 12:00 AM
   Metronidazole - [**2157-1-6**] 01:56 AM
   Linezolid - [**2157-1-6**] 03:52 AM
   Infusions:
   Fentanyl - 60 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-1-6**] 12:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-6**] 05:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 120 (110 - 137) bpm
   BP: 141/72(89) {88/41(53) - 166/95(108)} mmHg
   RR: 17 (12 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 8 (4 - 15)mmHg
   Total In:
                                                                  2,531 mL
                                                                  1,123 mL
   PO:
   TF:
   IVF:
                                                                  2,291 mL
                                                                  1,093 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                    410 mL
   Urine:
                                                                  1,405 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,126 mL
                                                                    713 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 768 (592 - 768) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 12.8 L/min
   Physical Examination
   General Appearance: Alert, answering questions but not speaking.
   Overweight / Obese. Denies pain.
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally, EOM intact
   Head, Ears, Nose, Throat: Tracheostomy in place, site clean and dry.
   Cardiovascular:  Distant heart sounds. Tachycardic but no murmurs
   auscultated.
   Respiratory / Chest: Rhonchorous breath sounds bilaterally
   Abdominal: Soft, Bowel sounds present, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Awake, alert, responsive, following simple commands, moves
   all four extremities spontaneously
   Labs / Radiology
   702 K/uL
   9.9 g/dL
   109 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.5 mEq/L
   8 mg/dL
   101 mEq/L
   136 mEq/L
   29.4 %
   9.6 K/uL
        [image002.jpg]
                            [**2156-12-31**]  10:14 PM
                            [**2157-1-1**]  02:11 AM
                            [**2157-1-1**]  04:21 AM
                            [**2157-1-2**]  02:42 AM
                            [**2157-1-2**]  04:04 PM
                            [**2157-1-3**]  02:50 AM
                            [**2157-1-4**]  01:00 AM
                            [**2157-1-4**]  02:57 AM
                            [**2157-1-5**]  04:39 AM
                            [**2157-1-6**]  01:30 AM
   WBC
   10.8
   8.4
   10.4
   12.8
   8.6
   9.6
   Hct
   26.8
   27.4
   31.3
   32.4
   30.1
   29.4
   Plt
   583
   590
   694
   685
   683
   702
   Cr
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   34
   34
   Glucose
   126
   130
   110
   131
   102
   85
   115
   109
   Other labs: PT / PTT / INR:14.2/27.7/1.2, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:68.3 %, Band:0.0 %,
   Lymph:18.6 %, Mono:8.7 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers, persistant tachycardia and
   respiratory failure.  Transferred to the MICU service, in order to
   further evaluate persistent fevers and AMS. Tracheostomy for inability
   to wean from ventilator, sedation.
   #1 Respiratory failure: Multifactorial with Hx of PNA, pulmonary edema,
   fluid collection, also secondary to altered mental status or even a
   central process given the head bleed. BAL showed Staph Aureus w/no
   sensitivities, although endotracheal sputum sample from the same day
   showed S. Aureus sensitive to Vanco, Gent, Tetracycline, and Bactrim.
   Had one episode of respiratory distress last night due to mechanical
   obstruction after which he had to be put back on the vent overnight.
   - continue linezolid and meropenem as above.
   - trach mask today as tolerated
   - Nebs and suctioning
   - Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   - Meropenem to cover acinitobacter, VAP and possible pseudomonas (start
   date = [**12-29**], 14 day course
 start date based on when patient was
   afebrile before fever spiked again but presumed due to Cdiff).
   .
   #2. C. Diff positive from [**12-30**]
   - IV Flagyl for C. Diff, day #1 = [**12-28**]
 will treat for 2 weeks after
   other abxs stopped
   - PO Vanc for C. Diff day #1 = [**12-31**]
 will treat for 2 weeks after
   other abxs stopped
   #3 Mental status/agitation: likely multifactorial including
   medications, subdurals, infection, long stay in ICU -> delirium.
   Neurology does not feel seizures are likely cause. LP did not show any
   organisms or suggest any meningitis.  EEG showed severe encephalopathy
   of both cortical and subcortical structures which may be due to
   increased intracranial pressure, no focal deficits or seizure activity.
   MS improving as sedation is weaned, although he has been very agitated
   over the last 48 hours.  Repeat head CT shows no change.  Psych
   recommended d/c seroquel and use Haldol 2.5mg TID and Ativan 0.5mg [**Hospital1 **]
   which has not been sufficient.  Started Valium 10mg PO TID with 5mg PRN
   and increased Haldol to 5mg IV TID.  This regimen seems to be working.
   - continue Haldol 5mg IV TID, Valium 10mg PO TID with 5mg PRN
   - will wean Fentanyl 20% per day
   - psychiatry to follow
   .
   #4 Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.  EKG shows sinus rhythm.
   LENIs show no DVT, CTA without PE.  Not clearly due to pain or
   agitation, no response to Valium, Haldol or Lopressor.  Have checked
   TSH recently, was slightly elevated (unlikely that tachycardia is due
   to hyperthyroidism).  Concern for tachycardia-induced cardiomyopathy.
   -check echo today
   - continue with Metoprolol 75mg PO TID for now and will reassess after
   echo
   #  Subdural hematomas: Neurosurgery will continue to follow.  Appear
   improved/stable from prior imaging.
   - Continue Keppra for seizure ppx
   #  Hypothyroidism: continue levothyroxine.
   # F: attempt to maintain fluids even today.
      E: Replete PRN
      N: NPO for now, plan for PEG today per surgery
   # PPX: Heparin SQ for DVT ppx, chlorhexidine mouth care, Ranitidine,
   bowel regimen.
   # Access: R subclavian inserted [**2156-12-28**].
   # Code Status: Full
   # Dispo: ICU level of care, may consider calling out to floor if
   agitation can be managed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-06 11:25:00 Physician Attending Progress Note
Chief Complaint: SDH
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Diltiazem started for control of heart rate in the setting of both
   sinus and intermittent atrial tachycardia
   PEG placed
   24 Hour Events:
 EKG - At [**2157-1-5**] 10:00 AM
 TRANSTHORACIC ECHO - At [**2157-1-5**] 02:17 PM--Well preserved cardiac
   function
 INVASIVE VENTILATION - START [**2157-1-5**] 03:00 PM
   placed back on vent for PEG
 PEG INSERTION - At [**2157-1-5**] 03:04 PM
 INVASIVE VENTILATION - STOP [**2157-1-5**] 10:42 PM
   placed back on vent for PEG
                       History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2157-1-3**] 12:00 PM
   Fluconazole - [**2157-1-4**] 02:00 AM
   Linezolid - [**2157-1-6**] 03:52 AM
   Meropenem - [**2157-1-6**] 08:00 AM
   Metronidazole - [**2157-1-6**] 10:00 AM
   Infusions:
   Fentanyl - 60 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-1-6**] 12:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2157-1-6**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 122 (100 - 136) bpm
   BP: 123/62(77) {88/41(53) - 166/91(102)} mmHg
   RR: 20 (14 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 11 (8 - 15)mmHg
   Total In:
                                                                  2,531 mL
                                                                  2,006 mL
   PO:
   TF:
                                                                     18 mL
   IVF:
                                                                  2,291 mL
                                                                  1,928 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                    790 mL
   Urine:
                                                                  1,405 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,126 mL
                                                                  1,216 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 768 (592 - 768) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ///29/
   Ve: 12.8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   702 K/uL
   109 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.5 mEq/L
   8 mg/dL
   101 mEq/L
   136 mEq/L
   29.4 %
   9.6 K/uL
        [image002.jpg]
                            [**2156-12-31**]  10:14 PM
                            [**2157-1-1**]  02:11 AM
                            [**2157-1-1**]  04:21 AM
                            [**2157-1-2**]  02:42 AM
                            [**2157-1-2**]  04:04 PM
                            [**2157-1-3**]  02:50 AM
                            [**2157-1-4**]  01:00 AM
                            [**2157-1-4**]  02:57 AM
                            [**2157-1-5**]  04:39 AM
                            [**2157-1-6**]  01:30 AM
   WBC
   10.8
   8.4
   10.4
   12.8
   8.6
   9.6
   Hct
   26.8
   27.4
   31.3
   32.4
   30.1
   29.4
   Plt
   583
   590
   694
   685
   683
   702
   Cr
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   34
   34
   Glucose
   126
   130
   110
   131
   102
   85
   115
   109
   Other labs: PT / PTT / INR:14.2/27.7/1.2, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:68.3 %, Band:0.0 %,
   Lymph:18.6 %, Mono:8.7 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   64 yo male admit with bilteral sub-dural hematoma now with encouraging
   wean in sedation, wean in need for ventilatory support but with
   persistent tachycardia and absence of findings on CTA for PE or recent
   ECHO to explain a persistnet tachycardia.  He, however has continued
   improvement in mental status as sedation is weaned.
   1)Respiratory Failure-
   -Continue trach mask
   -Move to speech and swallow evaluation for PMV trial
   -O2 as needed
   2)Tachycardia-
   -Likely has an atrial tachycardia given persistent tachycardia and
   intermittent change in p-wave morphology  with episodes of sustained
   elevation in heart rate
   -PE negative on CTA, ECHO without cardiac dysfunction
   -Increase Dilt to 90mg qid
   3)VAP
   -Linezolid and Meropenem to continue
   -Low grade fevers improving
   3)Altered Mental Status
   -Will continue to wean IV sedation to off
   -PRN bolus dosing as needed
   Additional issues to be defined and treated as described in housestaff
   note of this date.
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 TACHYCARDIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SUBDURAL HEMORRHAGE (SDH)
 CARDIAC DYSRHYTHMIA OTHER
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-6**] 10:38 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-12-28**] 01:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2157-01-07 06:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - EKG: sustained HR 140-160 ST with pac's/pvc's. BP 132/76
   Cardiology consulted, recommended b-blockade with CCB and BB together
   -  good response during the night
   - PMV used w/out significant desaturation
   - PICC line placed in the left basilic vein, central line removed
   - Free air seen on Xray for picc placement, surgery consulted and said
   it was OK w/bedside peg, examined patient and recommended repeat in AM
   - Valium being tapered with 10mg PO TID yesterday
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Meropenem
   Metronidazole
   Linezolid
   Vancomycin
   Infusions:
   Fentanyl - 45 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2157-1-6**] 08:00 AM
   Metoprolol - [**2157-1-6**] 06:38 PM
   Ranitidine (Prophylaxis) - [**2157-1-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2157-1-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-7**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 107 (99 - 170) bpm
   BP: 121/49(67) {106/49(67) - 149/88(102)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.3 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 58 (11 - 58)mmHg
   Total In:
                                                                  3,678 mL
                                                                    888 mL
   PO:
   TF:
                                                                    468 mL
                                                                    209 mL
   IVF:
                                                                  2,790 mL
                                                                    588 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    550 mL
   Urine:
                                                                  1,900 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,778 mL
                                                                    338 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   Physical Examination
   General Appearance: Alert, answering questions w/PMV in place.
   Overweight / Obese. Denies pain.
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally, EOM intact
   Head, Ears, Nose, Throat: Tracheostomy in place, site clean and dry.
   Cardiovascular:  Distant heart sounds. Tachycardic but no murmurs
   auscultated.
   Respiratory / Chest: B/L expiratory wheezing
   Abdominal: Soft, Bowel sounds present, PEG in place, NTTP, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Awake, alert, responsive, following simple commands, moves
   all four extremities spontaneously
   Labs / Radiology
   738 K/uL
   10.2 g/dL
   101 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   7 mg/dL
   100 mEq/L
   137 mEq/L
   31.2 %
   9.1 K/uL
        [image002.jpg]
                            [**2157-1-1**]  02:11 AM
                            [**2157-1-1**]  04:21 AM
                            [**2157-1-2**]  02:42 AM
                            [**2157-1-2**]  04:04 PM
                            [**2157-1-3**]  02:50 AM
                            [**2157-1-4**]  01:00 AM
                            [**2157-1-4**]  02:57 AM
                            [**2157-1-5**]  04:39 AM
                            [**2157-1-6**]  01:30 AM
                            [**2157-1-7**]  02:51 AM
   WBC
   10.8
   8.4
   10.4
   12.8
   8.6
   9.6
   9.1
   Hct
   26.8
   27.4
   31.3
   32.4
   30.1
   29.4
   31.2
   Plt
   583
   590
   694
   685
   683
   702
   738
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   34
   34
   Glucose
   130
   110
   131
   102
   85
   115
   109
   101
   Other labs:
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Micro:
   Sputum [**12-29**]: MRSA sensitive to vancomycin, c/w several other prior
   sputum cultures and BAL cultures. Sputum from [**12-29**] also
   w/Acinetobacter sensitive to Unasyn and Imipenem. Now w/2 negative
   sputum gram stains from [**1-3**] and [**1-5**].
   BCx [**12-28**]
 [**12-31**] final read negative
   UCx [**1-3**] negative
   Cath tip culture [**12-28**] negative
   CXR: free air resolved
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers, persistant tachycardia and
   respiratory failure.  Transferred to the MICU service, in order to
   further evaluate persistent fevers and AMS. Tracheostomy for inability
   to wean from ventilator, sedation.
   #1 Respiratory failure: Continually improving. Multifactorial with Hx
   of PNA, pulmonary edema, fluid collection, also secondary to altered
   mental status or even a central process given the head bleed. BAL
   showed Staph Aureus w/no sensitivities, although endotracheal sputum
   sample from the same day showed MRSA sensitive to Vanco, Gent,
   Tetracycline, and Bactrim.  Had one episode of respiratory distress
   three nights ago due to mechanical obstruction after which he had to be
   put back on the vent overnight but has been on trach mask now for >48h
   and has done well.
   - continue linezolid and meropenem as above w/end date [**1-12**]
   - trach mask
   - Nebs (changed to xopenex) and suctioning
   - PMV prn
   - Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   - Meropenem to cover acinitobacter, VAP and possible pseudomonas (start
   date = [**12-29**], 14 day course
 start date based on when patient was
   afebrile before fever spiked again but presumed due to Cdiff).
   Re-dosed yesterday for patient
s body habitus.
   .
   #2 C. Diff positive from [**12-30**]
   - IV Flagyl for C. Diff, day #1 = [**12-28**]
 will treat for 2 weeks after
   other abxs stopped
   - PO Vanc for C. Diff day #1 = [**12-31**]
 will treat for 2 weeks after
   other abxs stopped
   #3 Mental status/agitation: Continually improving.  Likely
   multifactorial including medications, subdurals, infection, long stay
   in ICU -> delirium. Neurology does not feel seizures are likely cause.
   LP did not show any organisms or suggest any meningitis.  EEG showed
   severe encephalopathy of both cortical and subcortical structures which
   may be due to increased intracranial pressure, no focal deficits or
   seizure activity. MS improving as sedation is weaned, and he appears to
   be less agitated today.  Repeat head CT shows no change.  Psych
   recommended d/c seroquel and use Haldol 2.5mg TID and Ativan 0.5mg [**Hospital1 **]
   which has not been sufficient.  Started Valium 10mg PO TID with 5mg PRN
   and increased Haldol to 5mg IV TID 2 days ago.  This regimen seems to
   be working.
   - continue Haldol 5mg IV TID, But wean Valium to 10mg TID. Will taper
   to [**Hospital1 **] in 48h, then 5BID in 48h after that.
   - will wean Fentanyl 20% per day
   - psychiatry to follow
   .
   #4 Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.  EKG shows sinus rhythm.
   LENIs show no DVT, CTA without PE.  Not clearly due to pain or
   agitation, no response to Valium, Haldol or Lopressor.  Have checked
   TSH recently, was slightly elevated (unlikely that tachycardia is due
   to hyperthyroidism).  Repeat ECHO normal. Changed to diltiazem 60mg QID
   from metoprolol w/out improvement. Increased diltiazem to 90 QID w/out
   improvement, HR still was still in 150
 160
s, w/out patient being
   agitated, so cardiology was consulted.
   - cardiology consulted, on Dilt 60mg QID and Metoprolol 50mg [**Hospital1 **] today
   -> increase Metoprolol to 62.5mg [**Hospital1 **]. Will continue to uptitrate for
   normal rate as BP tolerates.
   - albuterol d/c
   #5  Subdural hematomas: Neurosurgery will continue to follow.  Appear
   improved/stable from prior imaging.
   - Continue Keppra for seizure ppx
   - PT/OT was to see yesterday (consult placed) but no note in chart or
   OMR.
   #  Hypothyroidism: continue levothyroxine.
   # F: attempt to maintain fluids even today.
      E: Replete PRN
      N: PEG for tube feeds.
   # PPX: Heparin SQ for DVT, ppx Ranitidine, bowel regimen.
   # Access: R subclavian inserted [**2156-12-28**].
   # Code Status: Full
   # Dispo: ICU level of care, may consider calling out to floor once
   tachycardia can be managed.  CM attempting to place: may have bed
   available at [**Hospital1 2791**]?
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-7**] 12:53 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2157-1-6**] 01:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-07 12:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Altered Mental Status
   SDH
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2157-1-6**] 01:01 PM
   left basilic vein
 EKG - At [**2157-1-6**] 02:12 PM
   sustained HR 140-160 ST with pac's/pvc's. BP 132/76
 MULTI LUMEN - STOP [**2157-1-7**] 12:00 AM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2157-1-7**] 04:00 AM
   Meropenem - [**2157-1-7**] 08:06 AM
   Metronidazole - [**2157-1-7**] 09:10 AM
   Infusions:
   Fentanyl - 45 mcg/hour
   Other ICU medications:
   Metoprolol - [**2157-1-6**] 06:38 PM
   Ranitidine (Prophylaxis) - [**2157-1-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2157-1-7**] 08:07 AM
   Haloperidol (Haldol) - [**2157-1-7**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-7**] 12:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 112 (97 - 170) bpm
   BP: 136/61(80) {106/42(61) - 149/88(102)} mmHg
   RR: 38 (15 - 38) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.3 kg (admission): 115 kg
   Height: 67 Inch
             Total In:
                                                                  3,678 mL
                                                                  1,624 mL
   PO:
             TF:
                                                                    468 mL
                                                                    440 mL
   IVF:
                                                                  2,790 mL
                                                                    884 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    913 mL
   Urine:
                                                                  1,900 mL
                                                                    913 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,778 mL
                                                                    711 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy tube in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   738 K/uL
   101 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   7 mg/dL
   100 mEq/L
   137 mEq/L
   31.2 %
   9.1 K/uL
        [image002.jpg]
                            [**2157-1-1**]  02:11 AM
                            [**2157-1-1**]  04:21 AM
                            [**2157-1-2**]  02:42 AM
                            [**2157-1-2**]  04:04 PM
                            [**2157-1-3**]  02:50 AM
                            [**2157-1-4**]  01:00 AM
                            [**2157-1-4**]  02:57 AM
                            [**2157-1-5**]  04:39 AM
                            [**2157-1-6**]  01:30 AM
                            [**2157-1-7**]  02:51 AM
   WBC
   10.8
   8.4
   10.4
   12.8
   8.6
   9.6
   9.1
   Hct
   26.8
   27.4
   31.3
   32.4
   30.1
   29.4
   31.2
   Plt
   583
   590
   694
   685
   683
   702
   738
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   34
   34
   Glucose
   130
   110
   131
   102
   85
   115
   109
   101
   Other labs: PT / PTT / INR:14.2/27.7/1.2, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:68.3 %, Band:0.0 %,
   Lymph:18.6 %, Mono:8.7 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   64 yo male admitted with bialteral SDH now with continued process of
   ventilator weaning, increased mobilization and establishment of
   adequate nutrition vie PEG tube now in place.  He has had refractory
   tachycardia now addressed as atrial tachycardia and with treatment wtih
   B-Blocker and Ca++ Blocker dosing with HR transiently <100.
   Respiratory Failure-
   -Trach mask trials
   -PMV for speech
   -Ventilatory support only as needed
   SDH-
   -Keppra
   Atrial Tachycardia-
   -B-Blocker and Ca++ Blocker to continue
   -No thoughts of anticoagulation at this time
   Fever/Infection-
   VAP and Catheter Related Blood Stream Infection-Linezolid/Meropenem
   through [**1-12**]
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 TACHYCARDIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SUBDURAL HEMORRHAGE (SDH)
 CARDIAC DYSRHYTHMIA OTHER
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-7**] 12:53 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2157-1-6**] 01:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
with
   stabilization of heart rate
   Total time spent: 35 minutes

2157-01-08 05:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2157-1-7**] 03:52 PM
   increased metoprolol to 62.5mg [**Hospital1 **] -> HR controlled at 80-100
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2157-1-8**] 12:11 AM
   Metronidazole - [**2157-1-8**] 02:08 AM
   Linezolid - [**2157-1-8**] 04:06 AM
   Infusions:
   Fentanyl - 30 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-1-8**] 12:11 AM
   Haloperidol (Haldol) - [**2157-1-8**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-8**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 108 (77 - 122) bpm
   BP: 109/68(77) {91/42(60) - 147/80(103)} mmHg
   RR: 38 (15 - 38) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.3 kg (admission): 115 kg
   Height: 67 Inch
             Total In:
                                                                  2,750 mL
                                                                    798 mL
   PO:
             TF:
                                                                    840 mL
                                                                    191 mL
   IVF:
                                                                  1,550 mL
                                                                    577 mL
   Blood products:
   Total out:
                                                                  1,663 mL
                                                                    540 mL
   Urine:
                                                                  1,663 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,087 mL
                                                                    258 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: [**Year (4 digits) **], answering questions w/PMV in place.
   Overweight / Obese. Denies pain.
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally, EOM intact
   Head, Ears, Nose, Throat: Tracheostomy in place, site clean and dry.
   Cardiovascular:  Distant heart sounds. Tachycardic but no murmurs
   auscultated.
   Respiratory / Chest: B/L expiratory wheezing
   Abdominal: Soft, Bowel sounds present, PEG in place, NTTP, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Awake, [**Year (4 digits) 1108**], responsive, following simple commands, moves
   all four extremities spontaneously
   Labs / Radiology
   620 K/uL
   9.8 g/dL
   108 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.3 mEq/L
   8 mg/dL
   101 mEq/L
   137 mEq/L
   30.4 %
   8.6 K/uL
        [image002.jpg]
                            [**2157-1-1**]  04:21 AM
                            [**2157-1-2**]  02:42 AM
                            [**2157-1-2**]  04:04 PM
                            [**2157-1-3**]  02:50 AM
                            [**2157-1-4**]  01:00 AM
                            [**2157-1-4**]  02:57 AM
                            [**2157-1-5**]  04:39 AM
                            [**2157-1-6**]  01:30 AM
                            [**2157-1-7**]  02:51 AM
                            [**2157-1-8**]  02:15 AM
   WBC
   10.8
   8.4
   10.4
   12.8
   8.6
   9.6
   9.1
   8.6
   Hct
   26.8
   27.4
   31.3
   32.4
   30.1
   29.4
   31.2
   30.4
   Plt
   583
   590
   694
   685
   683
   702
   738
   620
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   34
   Glucose
   130
   110
   131
   102
   85
   115
   109
   101
   108
   Other labs: PT / PTT / INR:14.2/27.7/1.2, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:68.3 %, Band:0.0 %,
   Lymph:18.6 %, Mono:8.7 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers, persistant tachycardia and
   respiratory failure.  Transferred to the MICU service, in order to
   further evaluate persistent fevers and AMS. Tracheostomy for inability
   to wean from ventilator, sedation.
   #1 Respiratory failure: Continually improving. Multifactorial with Hx
   of PNA, pulmonary edema, fluid collection, also secondary to altered
   mental status or even a central process given the head bleed. BAL
   showed Staph Aureus w/no sensitivities, although endotracheal sputum
   sample from the same day showed MRSA sensitive to Vanco, Gent,
   Tetracycline, and Bactrim.  Had one episode of respiratory distress
   three nights ago due to mechanical obstruction after which he had to be
   put back on the vent overnight but has been on trach mask now for >48h
   and has done well.
   - continue linezolid and meropenem as above w/end date [**1-12**]
   - trach mask
   - Nebs (changed to xopenex) and suctioning
   - PMV prn
   - Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   - Meropenem to cover acinitobacter, VAP and possible pseudomonas (start
   date = [**12-29**], 14 day course
 start date based on when patient was
   afebrile before fever spiked again but presumed due to Cdiff).
   Re-dosed yesterday for patient
s body habitus.
   .
   #2 C. Diff positive from [**12-30**]
   - IV Flagyl for C. Diff, day #1 = [**12-28**]
 will treat for 2 weeks after
   other abxs stopped
   - PO Vanc for C. Diff day #1 = [**12-31**]
 will treat for 2 weeks after
   other abxs stopped
   #3 Mental status/agitation: Continually improving.  Likely
   multifactorial including medications, subdurals, infection, long stay
   in ICU -> delirium. Neurology does not feel seizures are likely cause.
   LP did not show any organisms or suggest any meningitis.  EEG showed
   severe encephalopathy of both cortical and subcortical structures which
   may be due to increased intracranial pressure, no focal deficits or
   seizure activity. MS improving as sedation is weaned, and he appears to
   be less agitated today.  Repeat head CT shows no change.  Psych
   recommended d/c seroquel and use Haldol 2.5mg TID and Ativan 0.5mg [**Hospital1 **]
   which has not been sufficient.  Started Valium 10mg PO TID with 5mg PRN
   and increased Haldol to 5mg IV TID 2 days ago.  This regimen seems to
   be working.
   - continue Haldol 5mg IV TID, But wean Valium to 10mg TID. Will taper
   to [**Hospital1 **] in 48h, then 5BID in 48h after that.
   - will wean Fentanyl 20% per day
   - psychiatry to follow
   .
   #4 Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.  EKG shows sinus rhythm.
   LENIs show no DVT, CTA without PE.  Not clearly due to pain or
   agitation, no response to Valium, Haldol or Lopressor.  Have checked
   TSH recently, was slightly elevated (unlikely that tachycardia is due
   to hyperthyroidism).  Repeat ECHO normal. Changed to diltiazem 60mg QID
   from metoprolol w/out improvement. Increased diltiazem to 90 QID w/out
   improvement, HR still was still in 150
 160
s, w/out patient being
   agitated, so cardiology was consulted.
   - cardiology consulted, on Dilt 60mg QID and Metoprolol 50mg [**Hospital1 **] today
   -> increase Metoprolol to 62.5mg [**Hospital1 **]. Will continue to uptitrate for
   normal rate as BP tolerates.
   - albuterol d/c
   #5  Subdural hematomas: Neurosurgery will continue to follow.  Appear
   improved/stable from prior imaging.
   - Continue Keppra for seizure ppx
   - PT/OT was to see yesterday (consult placed) but no note in chart or
   OMR.
   #  Hypothyroidism: continue levothyroxine.
   # F: attempt to maintain fluids even today.
      E: Replete PRN
      N: PEG for tube feeds.
   # PPX: Heparin SQ for DVT, ppx Ranitidine, bowel regimen.
   # Access: R subclavian inserted [**2156-12-28**].
   # Code Status: Full
   # Dispo: ICU level of care, may consider calling out to floor once
   tachycardia can be managed.  CM attempting to place: may have bed
   available at [**Hospital1 2791**]?
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2157-1-6**] 01:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Present for key portions of history and exam. Agree with Dr.
   [**Last Name (STitle) 2809**]
s assessment and plan.  HR control much better with incr dose
   of metoprolol.  MS [**First Name (Titles) 2810**] [**Last Name (Titles) 1108**] but min interactive.  Coughing well.
   Time spent -= 35 min

2157-01-09 05:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2157-1-8**] 09:00 AM
   - haldol changed to PO, need to taper
   - starts valium 10 mg PO BID today
   - metoprolol increased to 75 mg tid
   - rehab screening in process
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2157-1-9**] 12:04 AM
   Metronidazole - [**2157-1-9**] 02:06 AM
   Linezolid - [**2157-1-9**] 04:08 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-1-9**] 12:04 AM
   Haloperidol (Haldol) - [**2157-1-9**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-9**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.5
C (99.5
   HR: 89 (75 - 119) bpm
   BP: 123/53(67) {102/41(64) - 148/85(98)} mmHg
   RR: 17 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.3 kg (admission): 115 kg
   Height: 67 Inch
             Total In:
                                                                  2,400 mL
                                                                    761 mL
   PO:
             TF:
                                                                    840 mL
                                                                    195 mL
   IVF:
                                                                  1,410 mL
                                                                    566 mL
   Blood products:
   Total out:
                                                                  1,601 mL
                                                                    665 mL
   Urine:
                                                                  1,601 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    799 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Alert, answering questions w/PMV in place.
   Overweight / Obese. Denies pain.
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally, EOM intact
   Head, Ears, Nose, Throat: Tracheostomy in place, site clean and dry.
   Cardiovascular:  Distant heart sounds. Tachycardic but no murmurs
   auscultated.
   Respiratory / Chest: B/L expiratory wheezing
   Abdominal: Soft, Bowel sounds present, PEG in place, NTTP, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Awake, alert, responsive, following simple commands, moves
   all four extremities spontaneously
   Labs / Radiology
   625 K/uL
   10.4 g/dL
   105 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.5 mEq/L
   9 mg/dL
   100 mEq/L
   137 mEq/L
   30.7 %
   9.3 K/uL
        [image002.jpg]
                            [**2157-1-2**]  02:42 AM
                            [**2157-1-2**]  04:04 PM
                            [**2157-1-3**]  02:50 AM
                            [**2157-1-4**]  01:00 AM
                            [**2157-1-4**]  02:57 AM
                            [**2157-1-5**]  04:39 AM
                            [**2157-1-6**]  01:30 AM
                            [**2157-1-7**]  02:51 AM
                            [**2157-1-8**]  02:15 AM
                            [**2157-1-9**]  02:44 AM
   WBC
   8.4
   10.4
   12.8
   8.6
   9.6
   9.1
   8.6
   9.3
   Hct
   27.4
   31.3
   32.4
   30.1
   29.4
   31.2
   30.4
   30.7
   Plt
   590
   694
   685
   683
   [**Telephone/Fax (2) 2821**]25
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   TCO2
   34
   Glucose
   110
   131
   102
   85
   115
   109
   101
   108
   105
   Other labs: PT / PTT / INR:14.2/27.7/1.2, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:68.3 %, Band:0.0 %,
   Lymph:18.6 %, Mono:8.7 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers, persistant tachycardia and
   respiratory failure.  Transferred to the MICU service, in order to
   further evaluate persistent fevers and AMS. Tracheostomy for inability
   to wean from ventilator, sedation.
   #1 Respiratory failure: Continually improving. Multifactorial with Hx
   of PNA, pulmonary edema, fluid collection, also secondary to altered
   mental status or even a central process given the head bleed. BAL
   showed Staph Aureus w/no sensitivities, although endotracheal sputum
   sample from the same day showed MRSA sensitive to Vanco, Gent,
   Tetracycline, and Bactrim.  Had one episode of respiratory distress
   three nights ago due to mechanical obstruction after which he had to be
   put back on the vent overnight but has been on trach mask now for >48h
   and has done well.
   - continue linezolid and meropenem as above w/end date [**1-12**]
   - trach mask
   - Nebs (changed to xopenex) and suctioning
   - PMV prn
   - Linezolid X 21 days (start date = [**12-22**], end date = [**1-12**])
   - Meropenem to cover acinitobacter, VAP and possible pseudomonas (start
   date = [**12-29**], 14 day course
 start date based on when patient was
   afebrile before fever spiked again but presumed due to Cdiff).
   Re-dosed yesterday for patient
s body habitus.
   .
   #2 C. Diff positive from [**12-30**]
   - IV Flagyl for C. Diff, day #1 = [**12-28**]
 will treat for 2 weeks after
   other abxs stopped
   - PO Vanc for C. Diff day #1 = [**12-31**]
 will treat for 2 weeks after
   other abxs stopped
   #3 Mental status/agitation: Continually improving.  Likely
   multifactorial including medications, subdurals, infection, long stay
   in ICU -> delirium. Neurology does not feel seizures are likely cause.
   LP did not show any organisms or suggest any meningitis.  EEG showed
   severe encephalopathy of both cortical and subcortical structures which
   may be due to increased intracranial pressure, no focal deficits or
   seizure activity. MS improving as sedation is weaned, and he appears to
   be less agitated today.  Repeat head CT shows no change.  Psych
   recommended d/c seroquel and use Haldol 2.5mg TID and Ativan 0.5mg [**Hospital1 **]
   which has not been sufficient.  Started Valium 10mg PO TID with 5mg PRN
   and increased Haldol to 5mg IV TID 2 days ago.  This regimen seems to
   be working.
   - continue Haldol 5mg IV TID, But wean Valium to 10mg TID. Will taper
   to [**Hospital1 **] in 48h, then 5BID in 48h after that.
   - will wean Fentanyl 20% per day
   - psychiatry to follow
   .
   #4 Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.  EKG shows sinus rhythm.
   LENIs show no DVT, CTA without PE.  Not clearly due to pain or
   agitation, no response to Valium, Haldol or Lopressor.  Have checked
   TSH recently, was slightly elevated (unlikely that tachycardia is due
   to hyperthyroidism).  Repeat ECHO normal. Changed to diltiazem 60mg QID
   from metoprolol w/out improvement. Increased diltiazem to 90 QID w/out
   improvement, HR still was still in 150
 160
s, w/out patient being
   agitated, so cardiology was consulted.
   - cardiology consulted, on Dilt 60mg QID and Metoprolol 50mg [**Hospital1 **] today
   -> increase Metoprolol to 62.5mg [**Hospital1 **]. Will continue to uptitrate for
   normal rate as BP tolerates.
   - albuterol d/c
   #5  Subdural hematomas: Neurosurgery will continue to follow.  Appear
   improved/stable from prior imaging.
   - Continue Keppra for seizure ppx
   - PT/OT was to see yesterday (consult placed) but no note in chart or
   OMR.
   #  Hypothyroidism: continue levothyroxine.
   # F: attempt to maintain fluids even today.
      E: Replete PRN
      N: PEG for tube feeds.
   # PPX: Heparin SQ for DVT, ppx Ranitidine, bowel regimen.
   # Access: R subclavian inserted [**2156-12-28**].
   # Code Status: Full
   # Dispo: ICU level of care, may consider calling out to floor once
   tachycardia can be managed.  CM attempting to place: may have bed
   available at [**Hospital1 2791**]?
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-8**] 07:39 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2157-1-6**] 01:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-10 05:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   HR better on Metoprolol and Diltiazem.  Haldol decreased to 5mg PO
   BID.  Diazepam dose not changed yesterday (psych recommends 5 days at
   [**Hospital1 **] dose).
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2157-1-10**] 12:00 AM
   Metronidazole - [**2157-1-10**] 02:00 AM
   Linezolid - [**2157-1-10**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-1-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-10**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 109 (78 - 118) bpm
   BP: 129/52(70) {91/45(60) - 166/94(111)} mmHg
   RR: 25 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.3 kg (admission): 115 kg
   Height: 67 Inch
             Total In:
                                                                  2,350 mL
                                                                    828 mL
   PO:
             TF:
                                                                    840 mL
                                                                    208 mL
   IVF:
                                                                  1,450 mL
                                                                    560 mL
   Blood products:
   Total out:
                                                                  2,365 mL
                                                                    770 mL
   Urine:
                                                                  2,365 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -15 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Alert, answering questions by nodding head.
   Overweight / Obese. Denies pain.
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally, EOM intact
   Head, Ears, Nose, Throat: Tracheostomy in place, site clean and dry.
   Cardiovascular:  Distant heart sounds. Tachycardic but no murmurs
   auscultated.
   Respiratory / Chest: B/L expiratory wheezing
   Abdominal: Soft, Bowel sounds present, PEG in place, NTTP, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Awake, alert, responsive, following simple commands, moves
   all four extremities spontaneously
   Labs / Radiology
   548 K/uL
   10.2 g/dL
   108 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.3 mEq/L
   10 mg/dL
   101 mEq/L
   136 mEq/L
   30.6 %
   8.8 K/uL
        [image002.jpg]
                            [**2157-1-2**]  04:04 PM
                            [**2157-1-3**]  02:50 AM
                            [**2157-1-4**]  01:00 AM
                            [**2157-1-4**]  02:57 AM
                            [**2157-1-5**]  04:39 AM
                            [**2157-1-6**]  01:30 AM
                            [**2157-1-7**]  02:51 AM
                            [**2157-1-8**]  02:15 AM
                            [**2157-1-9**]  02:44 AM
                            [**2157-1-10**]  01:14 AM
   WBC
   10.4
   12.8
   8.6
   9.6
   9.1
   8.6
   9.3
   8.8
   Hct
   31.3
   32.4
   30.1
   29.4
   31.2
   30.4
   30.7
   30.6
   Plt
   694
   685
   683
   [**Telephone/Fax (3) **]
   625
   548
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   TCO2
   34
   Glucose
   131
   102
   85
   115
   109
   101
   108
   105
   108
   Other labs: PT / PTT / INR:14.2/27.7/1.2, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:68.3 %, Band:0.0 %,
   Lymph:18.6 %, Mono:8.7 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers, persistant tachycardia and
   respiratory failure.  Transferred to the MICU service, in order to
   further evaluate persistent fevers and AMS. Tracheostomy for inability
   to wean from ventilator, sedation.
   #1 Respiratory failure: Continually improving. Multifactorial with Hx
   of PNA, pulmonary edema, fluid collection, also secondary to altered
   mental status or even a central process given the head bleed. BAL
   showed Staph Aureus w/no sensitivities, although endotracheal sputum
   sample from the same day showed MRSA sensitive to Vanco, Gent,
   Tetracycline, and Bactrim.  Had one episode of respiratory distress
   three nights ago due to mechanical obstruction after which he had to be
   put back on the vent overnight but has been on trach mask now for >48h
   and has done well.
   - continue linezolid and meropenem as above w/end date [**1-12**]
   - trach mask
   - Nebs (changed to xopenex) and suctioning
   - PMV prn
   .
   #2 C. Diff positive from [**12-30**]
   - IV Flagyl for C. Diff, day #1 = [**12-28**]
 will treat for 2 weeks after
   other abxs stopped
   - PO Vanc for C. Diff day #1 = [**12-31**]
 will treat for 2 weeks after
   other abxs stopped
   #3 Mental status/agitation: Continually improving.  Likely
   multifactorial including medications, subdurals, infection, long stay
   in ICU -> delirium.  Fentanyl and versed weaned off.  Appreciate recs
   from psychiatry.
   - stop valium as likely stored in fat and will self-taper per psych
   recs
   - ativan prn per psych
   - Haldol 5mg PO BID today, will taper tomorrow
   .
   #4 Tachycardia: likely related to infection/fevers but could also be
   from a central process, agitation or pain.  EKG shows sinus rhythm.
   LENIs show no DVT, CTA without PE.  Not clearly due to pain or
   agitation, no response to Valium or haldol.  Have checked TSH recently,
   was slightly elevated (unlikely that tachycardia is due to
   hyperthyroidism).  Repeat ECHO normal. Changed to diltiazem 60mg QID
   from metoprolol w/out improvement. Increased diltiazem to 90 QID w/out
   improvement, HR still was still in 150
 160
s, w/out patient being
   agitated, so cardiology was consulted.
   - cardiology consulted, on Dilt 60mg QID and Metoprolol 75mg PO TID
   - albuterol d/c
   #5  Subdural hematomas: Neurosurgery will continue to follow.  Appear
   improved/stable from prior imaging.
   - Continue Keppra for seizure ppx
   - PT/OT to see
   #  Hypothyroidism: continue levothyroxine.
   # F: attempt to maintain fluids even today.
      E: Replete PRN
      N: tube feeds via PEG.
   # PPX: Heparin SQ for DVT, ppx Ranitidine, bowel regimen.
   # Access: PICC line. Subclavian pulled.
   # Code Status: Full
   # Dispo: patient is being screened for rehab.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-10**] 12:12 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2157-1-6**] 01:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-10 14:24:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   64 yo man admitted with b/l SDH was on neurosurgery service with
   respiratory failure, requiring trach.  Transferred from NSG service for
   persistent fevers and inability to wean.  Course c/b MRSA and
   acinetobacter PNA, C. diff colitis.  Because of persistent fevers vanco
   changed to linezolid and  meropenem started for acinetobacter.
   24 Hour Events:
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2157-1-10**] 04:00 AM
   Meropenem - [**2157-1-10**] 08:00 AM
   Metronidazole - [**2157-1-10**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-1-10**] 12:00 AM
   Other medications:
   levoxyl
   keppra
   vanco po
   diltiazem
   valium
   haldol 5mg [**Hospital1 **].
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2157-1-10**] 02:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 111 (78 - 118) bpm
   BP: 144/64(85) {103/45(64) - 166/94(111)} mmHg
   RR: 22 (17 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.3 kg (admission): 115 kg
   Height: 67 Inch
             Total In:
                                                                  2,350 mL
                                                                  1,459 mL
   PO:
             TF:
                                                                    840 mL
                                                                    497 mL
   IVF:
                                                                  1,450 mL
                                                                    842 mL
   Blood products:
   Total out:
                                                                  2,365 mL
                                                                  1,780 mL
   Urine:
                                                                  2,365 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -15 mL
                                                                   -321 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, moving all
   extremeties
   Labs / Radiology
   10.2 g/dL
   548 K/uL
   108 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.3 mEq/L
   10 mg/dL
   101 mEq/L
   136 mEq/L
   30.6 %
   8.8 K/uL
        [image002.jpg]
                            [**2157-1-2**]  04:04 PM
                            [**2157-1-3**]  02:50 AM
                            [**2157-1-4**]  01:00 AM
                            [**2157-1-4**]  02:57 AM
                            [**2157-1-5**]  04:39 AM
                            [**2157-1-6**]  01:30 AM
                            [**2157-1-7**]  02:51 AM
                            [**2157-1-8**]  02:15 AM
                            [**2157-1-9**]  02:44 AM
                            [**2157-1-10**]  01:14 AM
   WBC
   10.4
   12.8
   8.6
   9.6
   9.1
   8.6
   9.3
   8.8
   Hct
   31.3
   32.4
   30.1
   29.4
   31.2
   30.4
   30.7
   30.6
   Plt
   694
   685
   683
   [**Telephone/Fax (3) **]
   625
   548
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   TCO2
   34
   Glucose
   131
   102
   85
   115
   109
   101
   108
   105
   108
   Other labs: PT / PTT / INR:14.2/27.7/1.2, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:68.3 %, Band:0.0 %,
   Lymph:18.6 %, Mono:8.7 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Fevers:  MRSA and acidetobacter PNA, C. diff colitis.  Continue course.
   Respiratory failure:  Continue on TM
   AMS/agitation:  Haldol prn
   tachycardia:  related to agitation
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-10**] 12:12 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2157-1-6**] 01:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2157-01-11 05:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * PT/OT to see patient today
     * Rehab screening in process
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2157-1-10**] 05:00 PM
   Meropenem - [**2157-1-11**] 12:00 AM
   Metronidazole - [**2157-1-11**] 02:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2157-1-10**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2157-1-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-11**] 05:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 84 (84 - 116) bpm
   BP: 115/56(69) {113/52(69) - 153/86(97)} mmHg
   RR: 18 (18 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg (admission): 115 kg
   Height: 67 Inch
             Total In:
                                                                  2,402 mL
                                                                    443 mL
   PO:
             TF:
                                                                    841 mL
                                                                    189 mL
   IVF:
                                                                  1,440 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                  2,570 mL
                                                                    730 mL
   Urine:
                                                                  2,570 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -168 mL
                                                                   -287 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Alert, answering questions by nodding head.
   Overweight / Obese. Denies pain.
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally, EOM intact
   Head, Ears, Nose, Throat: Tracheostomy in place, site clean and dry.
   Cardiovascular:  Distant heart sounds. Tachycardic but no murmurs
   auscultated.
   Respiratory / Chest: B/L expiratory wheezing
   Abdominal: Soft, Bowel sounds present, PEG in place, NTTP, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Awake, alert, responsive, following simple commands, moves
   all four extremities spontaneously
   Labs / Radiology
   552 K/uL
   11.1 g/dL
   97 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.4 mEq/L
   9 mg/dL
   100 mEq/L
   135 mEq/L
   33.4 %
   13.1 K/uL
        [image002.jpg]
                            [**2157-1-3**]  02:50 AM
                            [**2157-1-4**]  01:00 AM
                            [**2157-1-4**]  02:57 AM
                            [**2157-1-5**]  04:39 AM
                            [**2157-1-6**]  01:30 AM
                            [**2157-1-7**]  02:51 AM
                            [**2157-1-8**]  02:15 AM
                            [**2157-1-9**]  02:44 AM
                            [**2157-1-10**]  01:14 AM
                            [**2157-1-11**]  01:59 AM
   WBC
   10.4
   12.8
   8.6
   9.6
   9.1
   8.6
   9.3
   8.8
   13.1
   Hct
   31.3
   32.4
   30.1
   29.4
   31.2
   30.4
   30.7
   30.6
   33.4
   Plt
   694
   685
   683
   [**Telephone/Fax (3) **]
   625
   548
   552
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   0.6
   TCO2
   34
   Glucose
   102
   85
   115
   109
   101
   108
   105
   108
   97
   Other labs: PT / PTT / INR:14.2/27.7/1.2, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:68.3 %, Band:0.0 %,
   Lymph:18.6 %, Mono:8.7 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers, persistant tachycardia and
   respiratory failure.  Transferred to the MICU service, in order to
   further evaluate persistent fevers and AMS. Tracheostomy for inability
   to wean from ventilator, sedation.
   .
   #1 Elevated WBCs: pt afebrile, possibly infectious but may be
   inflammation, lab variation.
   - will hold on infectious workup and check differential first.  If
   patient becomes febrile or other signs of infection, will consider
   reculturing
   - continue to monitor
   #2 Respiratory failure: Continually improving. Multifactorial with Hx
   of PNA, pulmonary edema, fluid collection, also secondary to altered
   mental status or even a central process given the head bleed. BAL
   showed Staph Aureus w/no sensitivities, although endotracheal sputum
   sample from the same day showed MRSA sensitive to Vanco, Gent,
   Tetracycline, and Bactrim.  Doing well on trach  mask for several days
   without need for ventilator.
   - continue linezolid and meropenem as above w/end date [**1-12**]
   - trach mask
   - Nebs (changed to xopenex) and suctioning
   - PMV prn
   .
   #3 C. Diff positive from [**12-30**]
   - IV Flagyl for C. Diff, day #1 = [**12-28**]
 will treat for 2 weeks after
   other abxs stopped, end date = [**2157-1-25**]
   - PO Vanc for C. Diff day #1 = [**12-31**]
 will treat for 2 weeks after
   other abxs stopped, end date = [**2157-1-25**]
   #4 Mental status/agitation: Continually improving.  Likely
   multifactorial including medications, subdurals, infection, long stay
   in ICU -> delirium.  Fentanyl and versed weaned off.  Appreciate recs
   from psychiatry.
   - Valium stopped.  Pt written for ativan PRN but has not needed any
   - will change Haldol to PRN and stop standing Haldol
   .
   #5 Tachycardia: Per cardiology, this is an atrial tachycardia with some
   MAT.  Changed to diltiazem 60mg QID from metoprolol w/out improvement.
   Tolerating Metoprolol 75mg PO TID and Diltiazem 60mg PO QID.
   - continue current regimen, consider changing to long-acting but
   unclear if this can be crushed into PEG tube.  Will discuss with
   pharmacy.
   #5  Subdural hematomas: Neurosurgery will continue to follow.  Appear
   improved/stable from prior imaging.
   - Continue Keppra for seizure ppx
   - PT/OT to see
   #  Hypothyroidism: continue levothyroxine.
   # F: attempt to maintain fluids even today.
      E: Replete PRN
      N: tube feeds via PEG.
   # PPX: Heparin SQ for DVT, ppx Ranitidine, bowel regimen.
   # Access: PICC line. Subclavian pulled.
   # Code Status: Full
   # Dispo: patient is being screened for rehab.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-11**] 04:40 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2157-1-6**] 01:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Updated physical exam
 pt is extubated, ETT not in place.  Breathing
   well and in no respiratory distress.
   [**First Name11 (Name Pattern1) 2719**] [**Initial (NamePattern1) **]. [**Last Name (NamePattern1) 1764**], PGY1
   ------ Protected Section Addendum Entered By:[**Name (NI) 2719**] [**Last Name (NamePattern1) 1764**], MD
   on:[**2157-1-11**] 14:06 ------

2157-01-11 12:21:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo man with SDH, respiratory failure and fevers.
   24 Hour Events:
   Doing well.
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2157-1-11**] 05:00 AM
   Meropenem - [**2157-1-11**] 08:00 AM
   Metronidazole - [**2157-1-11**] 10:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2157-1-10**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2157-1-11**] 10:00 AM
   Other medications:
   keppra
   SSI
   zantac
   vanco po,
   diltiazem
   lopressor
   haldol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-11**] 12:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 89 (84 - 114) bpm
   BP: 119/49(68) {115/49(68) - 153/86(97)} mmHg
   RR: 23 (18 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg (admission): 115 kg
   Height: 67 Inch
             Total In:
                                                                  2,402 mL
                                                                  1,247 mL
   PO:
             TF:
                                                                    841 mL
                                                                    425 mL
   IVF:
                                                                  1,440 mL
                                                                    822 mL
   Blood products:
   Total out:
                                                                  2,570 mL
                                                                  1,300 mL
   Urine:
                                                                  2,570 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -168 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   552 K/uL
   97 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.4 mEq/L
   9 mg/dL
   100 mEq/L
   135 mEq/L
   33.4 %
   13.1 K/uL
        [image002.jpg]
                            [**2157-1-3**]  02:50 AM
                            [**2157-1-4**]  01:00 AM
                            [**2157-1-4**]  02:57 AM
                            [**2157-1-5**]  04:39 AM
                            [**2157-1-6**]  01:30 AM
                            [**2157-1-7**]  02:51 AM
                            [**2157-1-8**]  02:15 AM
                            [**2157-1-9**]  02:44 AM
                            [**2157-1-10**]  01:14 AM
                            [**2157-1-11**]  01:59 AM
   WBC
   10.4
   12.8
   8.6
   9.6
   9.1
   8.6
   9.3
   8.8
   13.1
   Hct
   31.3
   32.4
   30.1
   29.4
   31.2
   30.4
   30.7
   30.6
   33.4
   Plt
   694
   685
   683
   [**Telephone/Fax (3) **]
   625
   548
   552
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   0.6
   TCO2
   34
   Glucose
   102
   85
   115
   109
   101
   108
   105
   108
   97
   Other labs: PT / PTT / INR:14.2/27.7/1.2, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:68.3 %, Band:0.0 %,
   Lymph:18.6 %, Mono:8.7 %, Eos:3.5 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Respiratory failure:  Doing well.  PMV as tolerated.  IV linezolid for
   MRSA in sputum
   C. diff:  Continue on vanco and flagyl.
   Increased WBC today, follow for now.  Check differential.
   Change haldol to prn only has he is not agitated.
   atrial tachycardia:  currently in sinus.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-11**] 04:40 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2157-1-6**] 01:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2157-01-12 05:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - haldol only prn
   - valium stopped; ativan prn
   - going to rehab today - need to call daughter to inform
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2157-1-12**] 12:00 AM
   Vancomycin - [**2157-1-12**] 12:00 AM
   Metronidazole - [**2157-1-12**] 02:00 AM
   Linezolid - [**2157-1-12**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-1-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-12**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 104 (86 - 116) bpm
   BP: 156/83(102) {94/49(65) - 166/92(105)} mmHg
   RR: 26 (18 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.3 kg (admission): 115 kg
   Height: 67 Inch
             Total In:
                                                                  2,350 mL
                                                                    817 mL
   PO:
             TF:
                                                                    840 mL
                                                                    200 mL
   IVF:
                                                                  1,440 mL
                                                                    557 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    800 mL
   Urine:
                                                                  2,010 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    340 mL
                                                                     17 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Alert, answering questions by nodding head.
   Overweight / Obese. Denies pain.
   Eyes / Conjunctiva: PERRL, pupils small but reactive and equal
   bilaterally, EOM intact
   Head, Ears, Nose, Throat: Tracheostomy in place, site clean and dry.
   Cardiovascular:  Distant heart sounds. Tachycardic but no murmurs
   auscultated.
   Respiratory / Chest: B/L expiratory wheezing
   Abdominal: Soft, Bowel sounds present, PEG in place, NTTP, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Awake, alert, responsive, following simple commands, moves
   all four extremities spontaneously
   Labs / Radiology
   332 K/uL
   11.7 g/dL
   105 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.7 mEq/L
   11 mg/dL
   100 mEq/L
   136 mEq/L
   34.1 %
   9.5 K/uL
        [image002.jpg]
                            [**2157-1-4**]  02:57 AM
                            [**2157-1-5**]  04:39 AM
                            [**2157-1-6**]  01:30 AM
                            [**2157-1-7**]  02:51 AM
                            [**2157-1-8**]  02:15 AM
                            [**2157-1-9**]  02:44 AM
                            [**2157-1-10**]  01:14 AM
                            [**2157-1-11**]  01:59 AM
                            [**2157-1-12**]  03:47 AM
                            [**2157-1-12**]  04:45 AM
   WBC
   12.8
   8.6
   9.6
   9.1
   8.6
   9.3
   8.8
   13.1
   9.5
   Hct
   32.4
   30.1
   29.4
   31.2
   30.4
   30.7
   30.6
   33.4
   34.1
   Plt
   685
   683
   702
   738
   [**Telephone/Fax (2) 2896**]52
   332
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   0.6
   0.6
   Glucose
   85
   115
   109
   101
   108
   105
   108
   97
   105
   Other labs: PT / PTT / INR:14.2/27.7/1.2, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:70.3 %, Band:0.0 %,
   Lymph:19.4 %, Mono:6.1 %, Eos:3.9 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   64 yo M with PMH of HTN, hypothyroidism who is s/p evacuation of
   bilateral subdural hematomas after a fall. Hospitalization has been
   complicated by tension pneumothorax, fevers, persistant tachycardia and
   respiratory failure.  Transferred to the MICU service, in order to
   further evaluate persistent fevers and AMS. Tracheostomy for inability
   to wean from ventilator, sedation.
   .
   #1 Elevated WBCs: pt afebrile, possibly infectious but may be
   inflammation, lab variation.
   - will hold on infectious workup and check differential first.  If
   patient becomes febrile or other signs of infection, will consider
   reculturing
   - continue to monitor
   #2 Respiratory failure: Continually improving. Multifactorial with Hx
   of PNA, pulmonary edema, fluid collection, also secondary to altered
   mental status or even a central process given the head bleed. BAL
   showed Staph Aureus w/no sensitivities, although endotracheal sputum
   sample from the same day showed MRSA sensitive to Vanco, Gent,
   Tetracycline, and Bactrim.  Doing well on trach  mask for several days
   without need for ventilator.
   - continue linezolid and meropenem as above w/end date [**1-12**]
   - trach mask
   - Nebs (changed to xopenex) and suctioning
   - PMV prn
   .
   #3 C. Diff positive from [**12-30**]
   - IV Flagyl for C. Diff, day #1 = [**12-28**]
 will treat for 2 weeks after
   other abxs stopped, end date = [**2157-1-25**]
   - PO Vanc for C. Diff day #1 = [**12-31**]
 will treat for 2 weeks after
   other abxs stopped, end date = [**2157-1-25**]
   #4 Mental status/agitation: Continually improving.  Likely
   multifactorial including medications, subdurals, infection, long stay
   in ICU -> delirium.  Fentanyl and versed weaned off.  Appreciate recs
   from psychiatry.
   - Valium stopped.  Pt written for ativan PRN but has not needed any
   - will change Haldol to PRN and stop standing Haldol
   .
   #5 Tachycardia: Per cardiology, this is an atrial tachycardia with some
   MAT.  Changed to diltiazem 60mg QID from metoprolol w/out improvement.
   Tolerating Metoprolol 75mg PO TID and Diltiazem 60mg PO QID.
   - continue current regimen, consider changing to long-acting but
   unclear if this can be crushed into PEG tube.  Will discuss with
   pharmacy.
   #5  Subdural hematomas: Neurosurgery will continue to follow.  Appear
   improved/stable from prior imaging.
   - Continue Keppra for seizure ppx
   - PT/OT to see
   #  Hypothyroidism: continue levothyroxine.
   # F: attempt to maintain fluids even today.
      E: Replete PRN
      N: tube feeds via PEG.
   # PPX: Heparin SQ for DVT, ppx Ranitidine, bowel regimen.
   # Access: PICC line. Subclavian pulled.
   # Code Status: Full
   # Dispo: patient is being screened for rehab.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-11**] 06:52 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2157-1-6**] 01:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-12 09:12:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo man with b/l SDH, c/b respiratory failure, VAPs, trach and peg
   placement, difficult to control MAT.  Doing well
   24 Hour Events:
   Has a bed at [**Hospital3 **] today
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2157-1-12**] 12:00 AM
   Metronidazole - [**2157-1-12**] 02:00 AM
   Linezolid - [**2157-1-12**] 04:00 AM
   Vancomycin - [**2157-1-12**] 06:05 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-1-12**] 12:00 AM
   Other medications:
   synthroid
   keppra
   SSI
   zantac
   vanco po
   flagyl
   diliazem
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2157-1-12**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 90 (89 - 116) bpm
   BP: 148/83(95) {94/49(65) - 166/92(105)} mmHg
   RR: 25 (18 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg (admission): 115 kg
   Height: 67 Inch
             Total In:
                                                                  2,350 mL
                                                                    965 mL
   PO:
             TF:
                                                                    840 mL
                                                                    315 mL
   IVF:
                                                                  1,440 mL
                                                                    590 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                  1,580 mL
   Urine:
                                                                  2,010 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    340 mL
                                                                   -614 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Voice
   Oriented (to): to name, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   332 K/uL
   105 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.7 mEq/L
   11 mg/dL
   100 mEq/L
   136 mEq/L
   34.1 %
   9.5 K/uL
        [image002.jpg]
                            [**2157-1-4**]  02:57 AM
                            [**2157-1-5**]  04:39 AM
                            [**2157-1-6**]  01:30 AM
                            [**2157-1-7**]  02:51 AM
                            [**2157-1-8**]  02:15 AM
                            [**2157-1-9**]  02:44 AM
                            [**2157-1-10**]  01:14 AM
                            [**2157-1-11**]  01:59 AM
                            [**2157-1-12**]  03:47 AM
                            [**2157-1-12**]  04:45 AM
   WBC
   12.8
   8.6
   9.6
   9.1
   8.6
   9.3
   8.8
   13.1
   9.5
   Hct
   32.4
   30.1
   29.4
   31.2
   30.4
   30.7
   30.6
   33.4
   34.1
   Plt
   685
   683
   702
   738
   [**Telephone/Fax (2) 2896**]52
   332
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   0.6
   0.6
   Glucose
   85
   115
   109
   101
   108
   105
   108
   97
   105
   Other labs: PT / PTT / INR:14.2/27.7/1.2, CK / CKMB /
   Troponin-T:69/6/<0.01, ALT / AST:90/59, Alk Phos / T Bili:115/0.4,
   Amylase / Lipase:49/18, Differential-Neuts:70.3 %, Band:0.0 %,
   Lymph:19.4 %, Mono:6.1 %, Eos:3.9 %, D-dimer:1181 ng/mL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:371 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Respiratory failure:  Continues on TM
   VAP:  completed antibiotic course today
   C. diff.  Complete further 2 week course of therapy
   MS.  [**Name13 (STitle) 2900**] improvement, but still somnolent at times.  Recognizes
   family.
   MAT:  Well controlled
   SDH:  Continue Keppra
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2157-1-11**] 06:52 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2157-1-6**] 01:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to other facility
   Total time spent: 35 minutes